2176-06-18 07:27:00 Physician Resident Progress Note
Chief Complaint: altered mental status
   24 Hour Events:
   - changed from cefepime to ceftriaxone at meningitis dosing per
   neuro/ID recs
   - EEG w/o seizure activity
   - urology recs: NTD, consider cystogram if increased abdominal pain,
   sutures need to be removed 2-3 weeks after surgery
   Patient unable to provide history: Encephalopathy
   Allergies:
   Amoxicillin
   Nausea/Vomiting
   Penicillins
   Nausea/Vomiting
   Coumadin (Oral) (Warfarin Sodium)
   Unknown;
   Oxycodone
   Unknown;
   Megestrol Acetate
   Nausea/Vomiting
   Remeron (Oral) (Mirtazapine)
   Unknown;
   Ritalin (Oral) (Methylphenidate Hcl)
   Confusion/Delir
   Last dose of Antibiotics:
   Ceftriaxone - [**2176-6-18**] 04:00 AM
   Metronidazole - [**2176-6-18**] 05:41 AM
   Infusions:
   Propofol - 10 mcg/Kg/min
   Other ICU medications:
   Lorazepam (Ativan) - [**2176-6-17**] 03:31 PM
   Heparin Sodium (Prophylaxis) - [**2176-6-18**] 05:41 AM
   Other medications:
   Changes to medical and family history:
   None
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Unobtainable, pt intubated and sedated
   Flowsheet Data as of  [**2176-6-18**] 07:21 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.5
   Tcurrent: 36.4
C (97.5
   HR: 68 (66 - 92) bpm
   BP: 66/37(43) {60/34(41) - 160/94(102)} mmHg  118/51 currently
   RR: 12 (10 - 23) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
             Total In:
                                                                  2,578 mL
                                                                  1,052 mL
   PO:
             TF:
                                                                     30 mL
                                                                     85 mL
   IVF:
                                                                  2,488 mL
                                                                    907 mL
   Blood products:
   Total out:
                                                                  1,285 mL
                                                                    406 mL
   Urine:
                                                                  1,285 mL
                                                                    406 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,293 mL
                                                                    646 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 472 (400 - 716) mL
   PS : 10 cmH2O
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 53
   PIP: 20 cmH2O
   Plateau: 15 cmH2O
   SpO2: 100%
   ABG: ///21/
   Ve: 7.5 L/min
   Physical Examination
   Intubated
   PEARL
   No perioral lesions
   Irregularly irregular S1 S2 soft systolic murmur RUSB
   Lungs clear bilaterally, no m/r/g
   Abd  with well healing surgical wound, suprapubic catheter and foley in
   place
   L arm with PICC in place, mild bruising no exudate
   Extrem cool hands and feet, no edema
   Opens eyes to voice , squeezes hands to command
   Tremulous
   Labs / Radiology
   451 K/uL
   9.6 g/dL
   79 mg/dL
   2.1 mg/dL
   21 mEq/L
   3.6 mEq/L
   47 mg/dL
   109 mEq/L
   140 mEq/L
   29.3 %
   14.7 K/uL
         [image002.jpg]
                             [**2176-6-17**]  05:48 PM
                             [**2176-6-18**]  04:17 AM
   WBC
   14.7
   Hct
   29.3
   Plt
   451
   Cr
   2.0
   2.1
   Glucose
   119
   79
   Other labs: PT / PTT / INR:16.0/36.2/1.4, Ca++:7.6 mg/dL, Mg++:1.9
   mg/dL, PO4:3.0 mg/dL
   CT abd [**6-17**]
   1. Anasarca. New small left greater than right pleural effusions. Tiny
   pericardial effusion.
   2. Right basilar airspace opacity concerning for aspiration.
   3. Superpubic and Foley catheter remain within the decompressed
   bladder.
   [**Doctor Last Name 4220**] drain is removed. The fluid in the previously seen rim-enhancing
   pelvic
   fluid collection has essentially resolved, with now 2.4 x 1.7 x 1.8 cm
   soft
   tissue seen remaining where fluid collection was. No definite new fluid
   collection seen.
   CXR patchy opacity L base with L effusion
   Micro
   [**6-17**] urine  cx NGTD
   [**6-17**] blood cx NGTD
   [**6-17**] CSF gram negative cx NGTD
   [**6-17**] HSV PCR pending
   [**6-17**] sputum 2+ GPC in pairs and clusters, 1+ yeast on gram; cx NGTD
   Assessment and Plan
   87 yo M with afib, T2 diabetes, dementia, s/p bladder rupture x2,
   recent repair, with h/o MDR UTIs, who presents with altered mental
   status.
   .
   * Altered mental status, leukocytosis
   Suspect delirium secondary to infection, probably pneumonia vs
   intermittent seizures. CSF picture complicated by traumatic LP, but
   can
t complete exclude meningitis. Line infection, recurrent
   intrabdominal infection, or UTI also entertained but less likely. No
   evidence of seizure activity on MRI. Acute renal failure and
   medications (eg metaclopramide) could also be contributory)
   - Continue vancomycin and ceftriaxone for now,  DC ceftriaxone if CSF
   cultures negative x48 hours
   - Not started on acyclovir on presentation, think HSV encephalitis less
   likely so okay to hold off for now
   - Continue vancomycin for GPCs in sputum
   - DC flagyl
   - Follow up pending cultures and HSV PCR, reculture if febrile
   - Hold metaclopramide, wean sedation
   - Neurology recommendations appreciated -> 24hr EEG, follow up recs
   .
   HAP: As per above.  Likely contributing to decline.  Does have copious
   secretions still
   - f/u sputum cx
   - send urine legionella
   - Cont vanco, CTX, azithro for now -> D/C azithro once legionella
   negative
   - Monitor vanco levels
   .
   * Tremulousness
   Probably due to current infection, may also be renal failure related.
   No evidence of seizure activity.
   - Follow, treating infection as above
   - f/u EEG
   * Vent
   Intubated in the ER for
airway protection.
 Requiring minimal
   ventilatory support currently.
   - RSBI 53, pursue SBT today
   .
   * Acute renal failure
   Urine output from catheters adequate arguing against obstruction.
   BUN/Cr >20:1 at presentation suggesting prerenal picture, however  FeNA
   6.5% which is less consistent this (though urine obtained later in day
   in ICU). ATN less likely in absence of significant hypotension (SBP of
   60
s briefly x1 overnight probably not accurate [**Location (un) 308**]). Consider AIN
   in the setting of recent cefepime. Urine does have eos, but this is a
   non-specific finding.  Concerning for gent effect from last admission
   - Will give addl 1L of IVF
   - Continue to follow urine output, Cr
   - Renally dose meds
   - Supportive care for now
   - If increases consider CTX as cause
   .
   * Anemia
   Hct down 35->29 following IVF but was discharged with Hct ~30. No gross
   bleeding.
   - Repeat PM hct.
   - Maintain active T+S, transfuse Hb>7
   .
   * s/p Bladder repair: Has had 2 ruptures in the last 2 years.  Now with
   chronic Foley and SP catheter.  At last admission appeared to be
   healing well with clear drainage.  Though there was a fluid collection
   in the peritoneum, was non-specific finding.  Currently draining clear
   urine with benign exam.
   - Cont Foley and SP catheter to gravity
   - No acute interventions required at this time per uruology
   .
   * DM2: Blood sugars stable with current symptoms.
   - Cont glargine with HISS, QID fingersticks
   .
   * Afib: In Afib currently.  Rate controlled.  Not on coumadin given
   past hemorrhage.
   - Cont metoprolol
   .
   * HTN: Stable.  Cont metoprolol.  Hold amlodipine for now
   ICU Care
   Nutrition:
   Comments: tubefeeding - hold for extubation
   Glycemic Control:  Blood sugar well controlled, Comments: glargine with
   humalog
   Lines:
   PICC Line - [**2176-6-17**] 08:38 AM
   22 Gauge - [**2176-6-18**] 04:00 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code
   Disposition:ICU

2176-06-18 09:44:00 Physician Attending Progress Note
Chief Complaint: delta ms
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   87M with recent bladder fx, presents from rehab with altered mental
   status, intubated for airway protection:
   24 Hour Events:
 PICC LINE - START [**2176-6-17**] 08:38 AM
 EEG - At [**2176-6-17**] 02:12 PM
   eeg - ?seizure, awaiting final read
   urol - no intervention.
   neuro eval today.
   broad abx to cover meningitis
   bp drop with lorazepam.
   moderate amt of tan thick secretions.
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   Amoxicillin
   Nausea/Vomiting
   Penicillins
   Nausea/Vomiting
   Coumadin (Oral) (Warfarin Sodium)
   Unknown;
   Oxycodone
   Unknown;
   Megestrol Acetate
   Nausea/Vomiting
   Remeron (Oral) (Mirtazapine)
   Unknown;
   Ritalin (Oral) (Methylphenidate Hcl)
   Confusion/Delir
   Last dose of Antibiotics:
   Ceftriaxone - [**2176-6-18**] 04:00 AM
   Metronidazole - [**2176-6-18**] 05:41 AM
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2176-6-17**] 03:31 PM
   Heparin Sodium (Prophylaxis) - [**2176-6-18**] 05:41 AM
   Other medications:
   riss, docisate, vanco, sqh, azithro, falgyl, ctx, tylenol prn, loraz
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue
   Ear, Nose, Throat: OG / NG tube
   Nutritional Support: No(t) NPO
   Respiratory: No(t) Cough, No(t) Dyspnea
   Signs or concerns for abuse : No
   Pain: Unable to answer
   Flowsheet Data as of  [**2176-6-18**] 09:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.5
   Tcurrent: 36
C (96.8
   HR: 71 (66 - 92) bpm
   BP: 93/40(53) {60/34(41) - 138/94(102)} mmHg
   RR: 13 (10 - 23) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
             Total In:
                                                                  2,578 mL
                                                                  1,328 mL
   PO:
             TF:
                                                                     30 mL
                                                                     85 mL
   IVF:
                                                                  2,488 mL
                                                                  1,123 mL
   Blood products:
   Total out:
                                                                  1,285 mL
                                                                    591 mL
   Urine:
                                                                  1,285 mL
                                                                    591 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,293 mL
                                                                    737 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 460 (400 - 716) mL
   PS : 10 cmH2O
   RR (Set): 12
   RR (Spontaneous): 12
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 53
   PIP: 15 cmH2O
   Plateau: 15 cmH2O
   SpO2: 100%
   ABG: ///21/
   Ve: 5.8 L/min
   Physical Examination
   General Appearance: No acute distress, No(t) Overweight / Obese, Thin
   Eyes / Conjunctiva: PERRL, small
   Head, Ears, Nose, Throat: OG tube
   Cardiovascular: (S1: Normal), (S2: Normal), irreg
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Extremities: Right: Trace, Left: Trace
   Skin:  Warm
   Neurologic: Follows simple commands, Responds to: Verbal stimuli,
   Movement: Not assessed, Sedated, Tone: Not assessed
   Labs / Radiology
   9.6 g/dL
   451 K/uL
   79 mg/dL
   2.1 mg/dL
   21 mEq/L
   3.6 mEq/L
   47 mg/dL
   109 mEq/L
   140 mEq/L
   29.3 %
   14.7 K/uL
        [image002.jpg]
                             [**2176-6-17**]  05:48 PM
                             [**2176-6-18**]  04:17 AM
   WBC
   14.7
   Hct
   29.3
   Plt
   451
   Cr
   2.0
   2.1
   Glucose
   119
   79
   Other labs: PT / PTT / INR:16.0/36.2/1.4, Ca++:7.6 mg/dL, Mg++:1.9
   mg/dL, PO4:3.0 mg/dL
   Imaging: cxr: lll infiltrate
   Microbiology: gpc in sputum
   Assessment and Plan
 LEUKOCYTOSIS
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 HYPOTENSION (NOT SHOCK)
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
 DIABETES MELLITUS (DM), TYPE II
 HYPERTENSION, BENIGN
 ATRIAL FIBRILLATION (AFIB)
   87M with recent surgery for bladder rupture, presents from rehab with
   change in mental status, likely from infection, although now some
   evidence of seizure activity on spot eeg. Infection seems still most
   likely precipitant:
   Change in mental status:
   -treat infection; wbc down
   -adjust abx as more culture data is available
   -contin eeg and neuro following; awaits recs regarding AED, doubt
   clinically we are dealing with meningitis though
   -will clarify LP vs ABX timing but seems that abx given before lp so
   will likely
   Resp failure: only from change in mental status
   -sbp today off propofol
   -clarify need for 50% fio2
   ARF: possible atn from gent  or ain from cefepime (last admission
   problem since high trough levels)
   -ensure adequate hydration
   -renal dose meds and avoid nephrotoxic
   -consider stopping cephalosporin if arf not resoving (?AIN)
   Bladder:
   -urol following;
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2176-6-17**] 08:38 AM
   22 Gauge - [**2176-6-18**] 04:00 AM
   Prophylaxis:
   DVT: SQ UF Heparin(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication: Family meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2176-06-19 07:03:00 Physician Resident Progress Note
Chief Complaint: altered mental status
   24 Hour Events:
   [**6-18**]
   - ABG stable on CPAP+  PS 7.44/31/259
   - Neuro: findings consistent with myoclonus, and EEG with seizure
   activity.  Started acyclovir pending HSV PCR
   - Hct slow downtrend to 26.8 -> added on iron studies, hemolysis labs
   - Tube feeds held past midnight for potential extubation
   - Started dilantin, became unresponsive and hypotensive to 90's. given
   ativan 2mg for concern for recurrent seizure activity. developed afib
   with RVR. no response to 1L of fluid, started on levophed, now weaning
   down. dilantin now DCd.
   - A line placed
   Patient unable to provide history: Encephalopathy
   Allergies:
   Amoxicillin
   Nausea/Vomiting
   Penicillins
   Nausea/Vomiting
   Coumadin (Oral) (Warfarin Sodium)
   Unknown;
   Oxycodone
   Unknown;
   Megestrol Acetate
   Nausea/Vomiting
   Remeron (Oral) (Mirtazapine)
   Unknown;
   Ritalin (Oral) (Methylphenidate Hcl)
   Confusion/Delir
   Last dose of Antibiotics:
   Metronidazole - [**2176-6-18**] 05:41 AM
   Acyclovir - [**2176-6-18**] 06:29 PM
   Ceftriaxone - [**2176-6-19**] 06:45 AM
   Infusions:
   Other ICU medications:
   Dilantin - [**2176-6-19**] 02:00 AM
   Lorazepam (Ativan) - [**2176-6-19**] 03:05 AM
   Propofol - [**2176-6-19**] 05:08 AM
   Fentanyl - [**2176-6-19**] 05:14 AM
   Heparin Sodium (Prophylaxis) - [**2176-6-19**] 06:45 AM
   Other medications:
   Changes to medical and family history:
   None
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Unobtainable
   Flowsheet Data as of  [**2176-6-19**] 07:00 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.9
C (98.5
   HR: 85 (65 - 115) bpm
   BP: 100/47(66) {100/47(-4) - 103/48(66)} mmHg
   RR: 12 (0 - 21) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 68 Inch
             Total In:
                                                                  2,265 mL
                                                                  1,537 mL
   PO:
             TF:
                                                                    323 mL
                                                                    209 mL
   IVF:
                                                                  1,672 mL
                                                                  1,158 mL
   Blood products:
   Total out:
                                                                  1,478 mL
                                                                    400 mL
   Urine:
                                                                  1,478 mL
                                                                    400 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    787 mL
                                                                  1,137 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: MMV/PSV/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 637 (460 - 664) mL
   PS : 10 cmH2O
   RR (Set): 10
   RR (Spontaneous): 5
   PEEP: 5 cmH2O
   FiO2: 35%
   PIP: 15 cmH2O
   SpO2: 100%
   ABG: 7.44/31/259/21/-1
   Ve: 6.2 L/min
   PaO2 / FiO2: 740
   Physical Examination
   Intubated
   PEARL
   Irregularly irregular S1 S2 II/VI systolic murmur
   Lungs clear bilaterally on anterior exam
   Abdomen soft, +bowel sounds, nontender surgical wound well healing,
   suprapubic catheter and foley in place
   Extrem warm tr dependent edema
   Not following commands, does not respond to voice or noxious stimuli
   L antecub PICC without erythema or exudate
   Labs / Radiology
   466 K/uL
   8.6 g/dL
   77 mg/dL
   2.2 mg/dL
   21 mEq/L
   3.1 mEq/L
   45 mg/dL
   113 mEq/L
   142 mEq/L
   27.0 %
   10.6 K/uL
        [image002.jpg]
                             [**2176-6-17**]  05:48 PM
                             [**2176-6-18**]  04:17 AM
                             [**2176-6-18**]  12:38 PM
                             [**2176-6-18**]  05:52 PM
                             [**2176-6-19**]  03:49 AM
   WBC
   14.7
   10.6
   Hct
   29.3
   26.8
   27.0
   Plt
   451
   466
   Cr
   2.0
   2.1
   2.2
   TCO2
   22
   Glucose
   119
   79
   77
   Other labs: PT / PTT / INR:16.6/38.6/1.5, ALT / AST:[**10-14**], Alk Phos / T
   Bili:/0.2, Lactic Acid:0.9 mmol/L, LDH:247 IU/L, Ca++:7.4 mg/dL,
   Mg++:1.8 mg/dL, PO4:3.4 mg/dL
   CXR L effusion
   Micro
   [**6-17**] urine  cx NGTD
   [**6-17**] blood cx NGTD
   [**6-17**] CSF gram negative cx NGTD
   [**6-17**] HSV PCR pending
   [**6-17**] sputum 2+ GPC in pairs and clusters, 1+ yeast on gram; cx with S.
   aureus (sensitivities pending)
   [**6-18**] urine legionella Ag negative
   Assessment and Plan
   87 yo M with afib, T2 diabetes, dementia, s/p bladder rupture x2,
   recent repair, with h/o MDR UTIs, who presents with altered mental
   status.
   * Hypotension: ddx from dilantin (as temporally related to dilantin
   load) vs sepsis.  Does not appear to be cardiogenic.  ECHO in [**2172**] w/
   EF > 55% and 2+ MR.
   - Have stopped dilantin for now.
   - For sepsis, he is on broad-spectrum antibiotics.
   - CVL today for access and will pull PICC in case this could be a
   source of infection.
   - check MV02 and repeat ECHO
   - d/c metoprolol
   .
   * Altered mental status, r/o meningitis
   Suspect delirium secondary to infection, probably pneumonia vs
   intermittent seizures. CSF picture complicated by traumatic LP, but
   can
t completely exclude meningitis. Line infection, recurrent
   intrabdominal infection, or UTI also entertained but less likely. Acute
   renal failure and medications (eg metaclopramide) could also be
   contributory.
   - Continue vancomycin and ceftriaxone for now. It appears that
   antibiotics were given PRIOR to LP in ER therefore cultures might be
   falsely negative. Given age would consider adding ampicillin
   empirically
   - Continue acyclovir pending HSV PCR (d1 = [**6-18**])
   - Follow up pending micro, reculture if febrile
   - Hold metaclopramide, wean sedation
   - Neurology recommendations appreciated -> 24hr EEG, follow up recs
   - given persistent altered mental status, will give bactrim to cover
   for listeria (PCN allergy) and ask ID for a consult
   .
   * Seizures
   Likely precipitated by acute infection ?meningitis
   - Await neuro recs regarding alternative antiepileptic
   .
   HAP: As per above.  Likely contributing to decline.  Does have copious
   secretions still
   - f/u sputum cx
   - Cont vanco, CTX (d1 = [**6-17**])
   - DC azithromycin, urine legionella negative
   - Monitor vanco levels
   * Vent
   Intubated in the ER for
[**Month/Year (2) 9112**] protection.
 Requiring minimal
   ventilatory support currently.
   - No plans to extubate until mental status improves
   .
   * Acute renal failure
   Urine output from catheters adequate arguing against obstruction.
   BUN/Cr >20:1 at presentation suggesting prerenal picture, however  FeNA
   6.5% which is less consistent this (though urine obtained later in day
   in ICU). ATN less likely in absence of significant hypotension (SBP of
   60
s briefly x1 overnight probably not accurate [**Location (un) 308**]). Consider AIN
   in the setting of recent cefepime. Urine does have eos, but this is a
   non-specific finding.  Concerning for gent effect from last admission
   - Will give addl 1L of IVF
   - Continue to follow urine output, Cr
   - Renally dose meds
   - Supportive care for now
   - If increases consider CTX as cause
   .
   * Anemia
   Hct down 35->29 following IVF but was discharged with Hct ~30. No gross
   bleeding.
   - Repeat PM hct.
   - Maintain active T+S, transfuse Hb>7
   .
   * s/p Bladder repair: Has had 2 ruptures in the last 2 years.  Now with
   chronic Foley and SP catheter.  At last admission appeared to be
   healing well with clear drainage.  Though there was a fluid collection
   in the peritoneum, was non-specific finding.  Currently draining clear
   urine with benign exam.
   - Cont Foley and SP catheter to gravity
   - No acute interventions required at this time per uruology
   .
   * DM2: Blood sugars stable with current symptoms.
   - Cont glargine with HISS, QID fingersticks
   .
   * Afib: In Afib currently.  Rate controlled.  Not on coumadin given
   past hemorrhage.
   - d/c metoprolol given hypotension
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2176-6-19**] 12:22 AM 30 mL/hour
   Glycemic Control:  Comments: humalog sliding scale
   Lines:
   PICC Line - [**2176-6-17**] 08:38 AM
   22 Gauge - [**2176-6-18**] 04:00 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code
   Disposition:ICU

2176-06-19 09:55:00 Physician Attending Progress Note
Chief Complaint: altered mental status
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   87M with recent admission for bladder rupture, presented with altered
   mental status:
   24 Hour Events:
 ARTERIAL LINE - START [**2176-6-19**] 05:30 AM
   poor mental status.
   eeg concering for seizure activity.
   in setting of dilantin load, hypotensive to sbp 50 and given norepi for
   ~ 1 hr.
   a line placed.
   afib with rvr briefly.
   History obtained from Medical records
   Patient unable to provide history: Sedated, Unresponsive
   Allergies:
   Amoxicillin
   Nausea/Vomiting
   Penicillins
   Nausea/Vomiting
   Coumadin (Oral) (Warfarin Sodium)
   Unknown;
   Oxycodone
   Unknown;
   Megestrol Acetate
   Nausea/Vomiting
   Remeron (Oral) (Mirtazapine)
   Unknown;
   Ritalin (Oral) (Methylphenidate Hcl)
   Confusion/Delir
   Last dose of Antibiotics:
   Metronidazole - [**2176-6-18**] 05:41 AM
   Acyclovir - [**2176-6-18**] 06:29 PM
   Ceftriaxone - [**2176-6-19**] 06:45 AM
   Infusions:
   Other ICU medications:
   Dilantin - [**2176-6-19**] 02:00 AM
   Lorazepam (Ativan) - [**2176-6-19**] 03:05 AM
   Propofol - [**2176-6-19**] 05:08 AM
   Fentanyl - [**2176-6-19**] 05:14 AM
   Heparin Sodium (Prophylaxis) - [**2176-6-19**] 06:45 AM
   Other medications:
   prop, colace, lansopr, riss, metopr, sqh, vanco, azithro, ctx, acycl,
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Ear, Nose, Throat: OG / NG tube
   Nutritional Support: No(t) NPO
   Gastrointestinal: No(t) Nausea, No(t) Emesis
   Signs or concerns for abuse : No
   Pain: Unable to answer
   Flowsheet Data as of  [**2176-6-19**] 09:53 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 37.1
C (98.7
   HR: 85 (65 - 117) bpm
   BP: 101/57(75) {100/47(-4) - 120/62(84)} mmHg
   RR: 16 (0 - 21) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 68 Inch
             Total In:
                                                                  2,265 mL
                                                                  1,714 mL
   PO:
             TF:
                                                                    323 mL
                                                                    261 mL
   IVF:
                                                                  1,672 mL
                                                                  1,203 mL
   Blood products:
   Total out:
                                                                  1,478 mL
                                                                    555 mL
   Urine:
                                                                  1,478 mL
                                                                    555 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    787 mL
                                                                  1,159 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (500 - 550) mL
   Vt (Spontaneous): 637 (491 - 664) mL
   PS : 10 cmH2O
   RR (Set): 12
   RR (Spontaneous): 2
   PEEP: 5 cmH2O
   FiO2: 35%
   PIP: 19 cmH2O
   Plateau: 16 cmH2O
   Compliance: 50 cmH2O/mL
   SpO2: 100%
   ABG: 7.44/31/259/21/-1
   Ve: 8 L/min
   PaO2 / FiO2: 740
   Physical Examination
   General Appearance: No acute distress, Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal), irreg
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: mild throughout)
   Extremities: Right: 2+, Left: 2+
   Skin:  Warm
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.6 g/dL
   466 K/uL
   77 mg/dL
   2.2 mg/dL
   21 mEq/L
   3.1 mEq/L
   45 mg/dL
   113 mEq/L
   142 mEq/L
   27.0 %
   10.6 K/uL
        [image002.jpg]
                             [**2176-6-17**]  05:48 PM
                             [**2176-6-18**]  04:17 AM
                             [**2176-6-18**]  12:38 PM
                             [**2176-6-18**]  05:52 PM
                             [**2176-6-19**]  03:49 AM
   WBC
   14.7
   10.6
   Hct
   29.3
   26.8
   27.0
   Plt
   451
   466
   Cr
   2.0
   2.1
   2.2
   TCO2
   22
   Glucose
   119
   79
   77
   Other labs: PT / PTT / INR:16.6/38.6/1.5, ALT / AST:[**10-14**], Alk Phos / T
   Bili:/0.2, Lactic Acid:0.9 mmol/L, LDH:247 IU/L, Ca++:7.4 mg/dL,
   Mg++:1.8 mg/dL, PO4:3.4 mg/dL
   Imaging: cxr: small left effusion; tubes and lines ok
   Microbiology: sputum: coag + staph
   Assessment and Plan
 LEUKOCYTOSIS
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 HYPOTENSION (NOT SHOCK)
 [**Month/Year (2) **], INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   [**Month/Year (2) **] CLEARANCE, COUGH)
 DIABETES MELLITUS (DM), TYPE II
 HYPERTENSION, BENIGN
 ATRIAL FIBRILLATION (AFIB)
   87M with dm, ckd, recent bladder rupture and peritonitis, now with
   altered mental status and seizure activity of unclear etiology:
   altered mental status and seizure: did not tolerate dilantin load -
   severe hypotension
   -neuro recs
   -may need alternative aed
   -continuous eeg
   -will discuss with id coverage for listeria (bactrim)
   hypotension: unclear etiology, appears to be med related
   -check central venous sat
   -central line
   -pressors prn
   -fluids
   arf: remains with elevated cr; likely gent related
   -cont to monitor
   -if cr increases will consult renal
   afib / rvr overnight:
   -metopr if bp tolerates
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale, Blood sugar well
   controlled
   Lines:
   PICC Line - [**2176-6-17**] 08:38 AM
   22 Gauge - [**2176-6-18**] 04:00 AM
   Arterial Line - [**2176-6-19**] 05:30 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Family meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2176-06-20 07:22:00 Physician Resident Progress Note
Chief Complaint: Altered mental status
   24 Hour Events:
 STOOL CULTURE - At [**2176-6-19**] 08:00 PM
 BLOOD CULTURED - At [**2176-6-20**] 04:07 AM
   - changed to fosphenytoin per neuro recs
   - pulled off azithro, added TMPSMX for listeria coverage (pt is pcn
   allergic)
   - repeated pan cx given hypotension
   - HSV PCR returned negative, DCd acyclovir
   - TPA'd PICC (discussed with attending), kept old PICC in place
   - Echo done EF 50-55%, moderate AS moderate MR
   - had bursts of afib with rvr overnight, resumed metoprolol TID
   PICC
   History obtained from Medical records
   Allergies:
   Amoxicillin
   Nausea/Vomiting
   Penicillins
   Nausea/Vomiting
   Coumadin (Oral) (Warfarin Sodium)
   Unknown;
   Oxycodone
   Unknown;
   Megestrol Acetate
   Nausea/Vomiting
   Remeron (Oral) (Mirtazapine)
   Unknown;
   Ritalin (Oral) (Methylphenidate Hcl)
   Confusion/Delir
   Last dose of Antibiotics:
   Metronidazole - [**2176-6-18**] 05:41 AM
   Acyclovir - [**2176-6-18**] 06:29 PM
   Vancomycin - [**2176-6-19**] 08:00 PM
   Bactrim (SMX/TMP) - [**2176-6-20**] 02:15 AM
   Ceftriaxone - [**2176-6-20**] 06:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2176-6-20**] 06:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Ear, Nose, Throat: OG / NG tube
   Nutritional Support: Tube feeds
   Neurologic: Seizure
   Flowsheet Data as of  [**2176-6-20**] 07:20 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.5
C (97.7
   HR: 105 (67 - 121) bpm
   BP: 128/63(89) {101/45(67) - 141/70(97)} mmHg
   RR: 20 (12 - 23) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 68 Inch
    CO/CI (Fick): (193.9 L/min) / (108.5 L/min/m2)
   Mixed Venous O2% Sat: 99 - 99
   Total In:
                                                                  4,471 mL
                                                                    759 mL
   PO:
   TF:
                                                                    873 mL
                                                                    326 mL
   IVF:
                                                                  3,188 mL
                                                                    373 mL
   Blood products:
   Total out:
                                                                  1,251 mL
                                                                    360 mL
   Urine:
                                                                  1,251 mL
                                                                    360 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,220 mL
                                                                    399 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 12
   RR (Spontaneous): 8
   PEEP: 5 cmH2O
   FiO2: 35%
   RSBI: 59
   PIP: 16 cmH2O
   Plateau: 14 cmH2O
   Compliance: 61.1 cmH2O/mL
   SpO2: 100%
   ABG: 7.41/29/191/19/-4
   Ve: 10.2 L/min
   PaO2 / FiO2: 546
   Physical Examination
   Intubated, eyes open, fixed straight
   PERRL, anicteric sclera
   Irregularly irregular S1 S2 II/VI systolic murmur
   Lungs clear bilaterally on anterior exam
   Abdomen soft, +bowel sounds, nontender surgical wound well healing,
   suprapubic catheter and foley in place
   Extrem warm [**2-2**]+ dependent edema
   Not following commands, small response to verbal/painful stimuli
   L antecub PICC without erythema or exudate, A line intact
   Labs / Radiology
   446 K/uL
   9.0 g/dL
   146 mg/dL
   2.1 mg/dL
   19 mEq/L
   3.8 mEq/L
   41 mg/dL
   114 mEq/L
   141 mEq/L
   27.2 %
   10.3 K/uL
        [image002.jpg] vanco 31.3  Ca 7.4, Mg 2.2, phos 2.9
                             [**2176-6-17**]  05:48 PM
                             [**2176-6-18**]  04:17 AM
                             [**2176-6-18**]  12:38 PM
                             [**2176-6-18**]  05:52 PM
                             [**2176-6-19**]  03:49 AM
                             [**2176-6-20**]  03:30 AM
                             [**2176-6-20**]  03:43 AM
   WBC
   14.7
   10.6
   10.3
   Hct
   29.3
   26.8
   27.0
   27.2
   Plt
   451
   466
   446
   Cr
   2.0
   2.1
   2.2
   2.1
   TCO2
   22
   19
   Glucose
   119
   79
   77
   146
   Other labs: PT / PTT / INR:16.6/38.6/1.5, ALT / AST:[**10-14**], Alk Phos / T
   Bili:/0.2, Lactic Acid:0.9 mmol/L, LDH:247 IU/L, Ca++:7.4 mg/dL,
   Mg++:2.2 mg/dL, PO4:2.9 mg/dL
   Blood cx [**Date range (1) 9126**]: NGTD
   Stool cx [**6-19**]: Neg C diff
   CSF cx: negative\
   HSV PRC: neg
   Echo [**6-19**]:
   The left atrium is normal in size. There is mild symmetric left
   ventricular hypertrophy. The left ventricular cavity size is normal.
   Due to suboptimal technical quality, a focal wall motion abnormality
   cannot be fully excluded. Overall left ventricular systolic function is
   low normal (LVEF 50-55%). There is no ventricular septal defect. Right
   ventricular chamber size and free wall motion are normal. The aortic
   valve leaflets are moderately thickened. There is moderate aortic valve
   stenosis (valve area 1.0-1.2cm2). Trace aortic regurgitation is seen.
   The mitral valve leaflets are mildly thickened. Moderate (2+) mitral
   regurgitation is seen. The pulmonary artery systolic pressure could not
   be determined. There is a small pericardial effusion. There are no
   echocardiographic signs of tamponade.
   Assessment and Plan
 LEUKOCYTOSIS
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 HYPOTENSION (NOT SHOCK)
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
 DIABETES MELLITUS (DM), TYPE II
 HYPERTENSION, BENIGN
 ATRIAL FIBRILLATION (AFIB)
   87 yo M with afib, T2 diabetes, dementia, s/p bladder rupture x2,
   recent repair, with h/o MDR UTIs, who presents with altered mental
   status, seizures, now with hypotension.
   .
   * Hypotension: Now stable.  Off pressors.  [**Month (only) 60**] have been related to
   extreme reaction to dilantin (as temporally related to dilantin load)
   vs sepsis.  Does not appear to be cardiogenic.  ECHO with preserved EF
   and no real valve pathology.  Hct stable.  Less concern for AI.
   - Hold dilantin -> switched to phosphenytoin
   - For potential sepsis, he is on broad-spectrum antibiotics.
   - PICC port cleared, now has two ports
   - Cont metoprolol cautiously
   - f/u micro
   .
   * Altered mental status, r/o meningitis
   Suspect delirium secondary to infection, probably pneumonia vs
   intermittent seizures. CSF picture complicated by traumatic LP, but
   can
t completely exclude meningitis and are treating for now. Line
   infection, recurrent intrabdominal infection, or UTI also entertained
   but less likely. Acute renal failure and medications (eg
   metaclopramide) could also be contributory.  Now may be very slow to
   clear given acute stress on underlying dementia
   - Continue vancomycin and ceftriaxone for now. It appears that
   antibiotics were given PRIOR to LP in ER therefore cultures might be
   falsely negative.
   - Added bactrim for listeria given PCN allergy
   - HSV PCR neg -> D/C
d acyclovir
   - Follow up pending micro, reculture if febrile
   - Hold metaclopramide, wean sedation
   - Neurology recommendations appreciated -> 24hr EEG, follow up recs
   - ? ID consult for antibiotics
   .
   * Seizures
   Likely precipitated by acute infection ?meningitis
   - Now on phosphenytoin
   - f/u neuron recs, EEG
   .
   HAP: As per above.  Likely contributing to decline.  Does have copious
   secretions still
   - f/u sputum cx
   - Cont vanco, CTX (d1 = [**6-17**])
   - DC
d azithromycin, urine legionella negative
   - Vanco levels high -> will change dosing
   * Vent
   Intubated in the ER for
airway protection.
 Requiring minimal
   ventilatory support currently.
   - No plans to extubate until mental status improves
   - Does have intermittent apeic episodes
   .
   * Acute renal failure
   Urine output from catheters adequate arguing against obstruction.
   BUN/Cr >20:1 at presentation suggesting prerenal picture, however  FeNA
   6.5% which is less consistent this (though urine obtained later in day
   in ICU). ATN less likely in absence of significant hypotension (SBP of
   60
s briefly x1 overnight probably not accurate [**Location (un) 308**]). Consider AIN
   in the setting of recent cefepime. Urine does have eos, but this is a
   non-specific finding.  Concerning for gent effect from last admission
   - Genlte IVF
   - Continue to follow urine output, Cr
   - Renally dose meds
   - Supportive care for now
   - If increases consider CTX as cause or bactrim
   .
   * Anemia
   Hct down 35->29 following IVF but was discharged with Hct ~30. No gross
   bleeding.  Now 27 and stable, no signs of active bleeding
   - Maintain active T+S, transfuse Hb>7
   - Cont to trend
   .
   * s/p Bladder repair: Has had 2 ruptures in the last 2 years.  Now with
   chronic Foley and SP catheter.  At last admission appeared to be
   healing well with clear drainage.  Though there was a fluid collection
   in the peritoneum, was non-specific finding.  Currently draining clear
   urine with benign exam.
   - Cont Foley and SP catheter to gravity
   - No acute interventions required at this time per uruology
   .
   * DM2: Blood sugars stable with current symptoms.
   - Cont glargine with HISS, QID fingersticks
   .
   * Afib: In Afib currently.  Rate controlled.  Not on coumadin given
   past hemorrhage.
   - Cont metoprolol as has bursts of afib at night
   - IV BB prn, watch BP
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2176-6-20**] 03:19 AM 50 mL/hour
   Glycemic Control:  Insulin infusion
   Lines:
   PICC Line - [**2176-6-17**] 08:38 AM
   22 Gauge - [**2176-6-18**] 04:00 AM
   Arterial Line - [**2176-6-19**] 05:30 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition:ICU

2176-06-20 07:47:00 Physician Attending Progress Note
Chief Complaint:
   HPI:
   24 Hour Events:
 STOOL CULTURE - At [**2176-6-19**] 08:00 PM
 BLOOD CULTURED - At [**2176-6-20**] 04:07 AM
   PICC
   - Added bactrim for coverage of possible listeria meningitis
   - Remains intubated and off sedation
   - HSV PCR negative
   Allergies:
   Amoxicillin
   Nausea/Vomiting
   Penicillins
   Nausea/Vomiting
   Coumadin (Oral) (Warfarin Sodium)
   Unknown;
   Oxycodone
   Unknown;
   Megestrol Acetate
   Nausea/Vomiting
   Remeron (Oral) (Mirtazapine)
   Unknown;
   Ritalin (Oral) (Methylphenidate Hcl)
   Confusion/Delir
   Last dose of Antibiotics:
   Metronidazole - [**2176-6-18**] 05:41 AM
   Acyclovir - [**2176-6-18**] 06:29 PM
   Vancomycin - [**2176-6-19**] 08:00 PM
   Bactrim (SMX/TMP) - [**2176-6-20**] 02:15 AM
   Ceftriaxone - [**2176-6-20**] 06:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2176-6-20**] 06:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2176-6-20**] 07:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.5
C (97.7
   HR: 105 (67 - 121) bpm
   BP: 128/63(89) {101/45(67) - 141/70(97)} mmHg
   RR: 20 (12 - 23) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 68 Inch
   CO/CI (Fick): (193.9 L/min) / (108.5 L/min/m2)
   Mixed Venous O2% Sat: 99 - 99
   Total In:
                                                                  4,471 mL
                                                                    782 mL
   PO:
   TF:
                                                                    873 mL
                                                                    345 mL
   IVF:
                                                                  3,188 mL
                                                                    377 mL
   Blood products:
   Total out:
                                                                  1,251 mL
                                                                    360 mL
   Urine:
                                                                  1,251 mL
                                                                    360 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 +3,220 mL
                                                                    422 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 12
   RR (Spontaneous): 8
   PEEP: 5 cmH2O
   FiO2: 35%
   RSBI: 59
   PIP: 16 cmH2O
   Plateau: 14 cmH2O
   Compliance: 61.1 cmH2O/mL
   SpO2: 100%
   ABG: 7.41/29/191/19/-4
   Ve: 10.2 L/min
   PaO2 / FiO2: 546
   Physical Examination
   General Appearance: No acute distress, intubated, does not respond to
   verbal
   Eyes / Conjunctiva: PERRL
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   bases b/l)
   Extremities: Right: Trace, Left: Trace
   Musculoskeletal: Unable to stand
   Skin:  Warm, bilateral hand edema (puffy in appearance: not related to
   the IV site)
   Neurologic: Responds to: painful, withdraws, Oriented (to): 0,
   Movement: Non -purposeful, Tone: Normal
   Labs / Radiology
   9.0 g/dL
   446 K/uL
   146 mg/dL
   2.1 mg/dL
   19 mEq/L
   3.8 mEq/L
   41 mg/dL
   114 mEq/L
   141 mEq/L
   27.2 %
   10.3 K/uL
        [image002.jpg]
                             [**2176-6-17**]  05:48 PM
                             [**2176-6-18**]  04:17 AM
                             [**2176-6-18**]  12:38 PM
                             [**2176-6-18**]  05:52 PM
                             [**2176-6-19**]  03:49 AM
                             [**2176-6-20**]  03:30 AM
                             [**2176-6-20**]  03:43 AM
   WBC
   14.7
   10.6
   10.3
   Hct
   29.3
   26.8
   27.0
   27.2
   Plt
   451
   466
   446
   Cr
   2.0
   2.1
   2.2
   2.1
   TCO2
   22
   19
   Glucose
   119
   79
   77
   146
   Other labs: PT / PTT / INR:16.6/38.6/1.5, ALT / AST:[**10-14**], Alk Phos / T
   Bili:/0.2, Lactic Acid:0.9 mmol/L, LDH:247 IU/L, Ca++:7.4 mg/dL,
   Mg++:2.2 mg/dL, PO4:2.9 mg/dL
   Vanco level 31 [**2176-6-20**]
   TTE [**6-19**] The left atrium is normal in size. There is mild symmetric
   left ventricular hypertrophy. The left ventricular cavity size is
   normal. Due to suboptimal technical quality, a focal wall motion
   abnormality cannot be fully excluded. Overall left ventricular systolic
   function is low normal (LVEF 50-55%). There is no ventricular septal
   defect. Right ventricular chamber size and free wall motion are normal.
   The aortic valve leaflets are moderately thickened. There is moderate
   aortic valve stenosis (valve area 1.0-1.2cm2). Trace aortic
   regurgitation is seen. The mitral valve leaflets are mildly thickened.
   Moderate (2+) mitral regurgitation is seen. The pulmonary artery
   systolic pressure could not be determined. There is a small pericardial
   effusion. There are no echocardiographic signs of tamponade
   CXR [**6-20**]: no infiltrate. Tubes and lines in good position
   Assessment and Plan
 LEUKOCYTOSIS
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 HYPOTENSION (NOT SHOCK)
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
 DIABETES MELLITUS (DM), TYPE II
 HYPERTENSION, BENIGN
 ATRIAL FIBRILLATION (AFIB)
   87M with dm, ckd, recent bladder rupture  (early [**2176-5-31**]) and
   peritonitis, now with altered mental status and was intubated for
   altered MS [**First Name (Titles) **] [**Last Name (Titles) 2378**] activity of unclear etiology. Staph aureus
   sputum from [**6-17**]
   Altered mental status and [**Month/Year (2) 2378**]: EEG unclear whether  having seizures
   did not tolerate dilantin load - severe hypotension
   switched to phosphenytoin. Still with depressed altered MS of unclear
   etiology: ? early meningitis vs stroke. Will d/w with neurology
   etiologies and further evaluation
   -neuro recs: ? MRI (can not use contrast), ? cont EEG, ? repeat LP
   - Cont the phosphenytoin
   - Cont Vanco, Ceftriaxone, Bactrim for listeria
   - The vanco trough was after a dose given at 8PM [**6-19**]
   MRSA sputum: conts on Vancomycin (trough [**6-20**]), could also be
   contaminant
   Mechanical ventilation: looks well on PS will leave for now, can not be
   extubated. Had a respiratory alkalosis (from AC vent) with what looks
   like a compensatory HCO3 diuresis in the urine vs non gap metabolic
   acidosis (not getting NS).
   - Check ABG and Chem 7 on PS to make sure he is correcting.
   hypotension: unclear etiology, appears to be phenyttoin related, now
   resolved off pressors. TTE with no further explanation
   arf: remains with elevated cr; likely gent related
   -cont to monitor
   -if cr increases will consult renal
   afib / rvr:
   -metopr if bp tolerates
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2176-6-20**] 03:19 AM 50 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2176-6-17**] 08:38 AM
   22 Gauge - [**2176-6-18**] 04:00 AM
   Arterial Line - [**2176-6-19**] 05:30 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, mouth care
   Comments:
   Communication: Family meeting held , ICU consent signed Comments:
   Code status: FULL
   Disposition :ICU
   Total time spent: 40 min

2176-06-20 14:32:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 STOOL CULTURE - At [**2176-6-19**] 08:00 PM
 BLOOD CULTURED - At [**2176-6-20**] 04:07 AM
   PICC
   > HSV PCR negative
   Allergies:
   Amoxicillin
   Nausea/Vomiting
   Penicillins
   Nausea/Vomiting
   Coumadin (Oral) (Warfarin Sodium)
   Unknown;
   Oxycodone
   Unknown;
   Megestrol Acetate
   Nausea/Vomiting
   Remeron (Oral) (Mirtazapine)
   Unknown;
   Ritalin (Oral) (Methylphenidate Hcl)
   Confusion/Delir
   Last dose of Antibiotics:
   Metronidazole - [**2176-6-18**] 05:41 AM
   Acyclovir - [**2176-6-18**] 06:29 PM
   Vancomycin - [**2176-6-19**] 08:00 PM
   Ceftriaxone - [**2176-6-20**] 06:00 AM
   Bactrim (SMX/TMP) - [**2176-6-20**] 10:30 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2176-6-20**] 11:44 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2176-6-20**] 02:31 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.7
C (98
   HR: 103 (70 - 133) bpm
   BP: 122/60(83) {94/43(62) - 141/78(102)} mmHg
   RR: 20 (13 - 23) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 68 Inch
             Total In:
                                                                  4,471 mL
                                                                  1,488 mL
   PO:
             TF:
                                                                    873 mL
                                                                    629 mL
   IVF:
                                                                  3,188 mL
                                                                    739 mL
   Blood products:
   Total out:
                                                                  1,251 mL
                                                                    600 mL
   Urine:
                                                                  1,251 mL
                                                                    600 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,220 mL
                                                                    888 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 314 (314 - 314) mL
   PS : 5 cmH2O
   RR (Set): 12
   RR (Spontaneous): 15
   PEEP: 5 cmH2O
   FiO2: 35%
   RSBI: 59
   PIP: 10 cmH2O
   Plateau: 15 cmH2O
   Compliance: 55 cmH2O/mL
   SpO2: 99%
   ABG: 7.44/31/370/17/-1
   Ve: 5.9 L/min
   PaO2 / FiO2: 1,057
   Physical Examination
   General Appearance: Well nourished, No acute distress,
   intubated/sedated
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : bases b/l)
   Abdominal: Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace
   Skin:  Warm
   Neurologic: Responds to: Noxious stimuli, Movement: No spontaneous
   movement, No(t) Sedated, Tone: Normal
   Labs / Radiology
   9.0 g/dL
   446 K/uL
   142 mg/dL
   2.1 mg/dL
   17 mEq/L
   4.0 mEq/L
   40 mg/dL
   111 mEq/L
   140 mEq/L
   27.2 %
   10.3 K/uL
        [image002.jpg]
                             [**2176-6-17**]  05:48 PM
                             [**2176-6-18**]  04:17 AM
                             [**2176-6-18**]  12:38 PM
                             [**2176-6-18**]  05:52 PM
                             [**2176-6-19**]  03:49 AM
                             [**2176-6-20**]  03:30 AM
                             [**2176-6-20**]  03:43 AM
                             [**2176-6-20**]  11:24 AM
                             [**2176-6-20**]  11:41 AM
   WBC
   14.7
   10.6
   10.3
   Hct
   29.3
   26.8
   27.0
   27.2
   Plt
   451
   466
   446
   Cr
   2.0
   2.1
   2.2
   2.1
   2.1
   TCO2
   22
   19
   22
   Glucose
   119
   79
   77
   146
   142
   Other labs: PT / PTT / INR:16.6/38.6/1.5, ALT / AST:[**10-14**], Alk Phos / T
   Bili:/0.2, Lactic Acid:1.5 mmol/L, LDH:247 IU/L, Ca++:7.4 mg/dL,
   Mg++:2.2 mg/dL, PO4:2.8 mg/dL
   TTE 5/20/09The left atrium is normal in size. There is mild symmetric
   left ventricular hypertrophy. The left ventricular cavity size is
   normal. Due to suboptimal technical quality, a focal wall motion
   abnormality cannot be fully excluded. Overall left ventricular systolic
   function is low normal (LVEF 50-55%). There is no ventricular septal
   defect. Right ventricular chamber size and free wall motion are normal.
   The aortic valve leaflets are moderately thickened. There is moderate
   aortic valve stenosis (valve area 1.0-1.2cm2). Trace aortic
   regurgitation is seen. The mitral valve leaflets are mildly thickened.
   Moderate (2+) mitral regurgitation is seen. The pulmonary artery
   systolic pressure could not be determined. There is a small pericardial
   effusion. There are no echocardiographic signs of tamponade
   Assessment and Plan
 LEUKOCYTOSIS
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 HYPOTENSION (NOT SHOCK)
 [**Month/Year (2) **], INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   [**Month/Year (2) **] CLEARANCE, COUGH)
 DIABETES MELLITUS (DM), TYPE II
 HYPERTENSION, BENIGN
 ATRIAL FIBRILLATION (AFIB)
   87 yo male with recent hx of bladder rupture and altered MS resulting
   in intubation with unclear etiology driving this process, now off
   sedation with only minimal improvement in his neuro exam.
   Altered Mental status: seizures  on EEG  with potential multifactorial
   in etiology ? infection/meningitis given elevated WBC on traumatic tap
   (neg clx on CSF), no evidence of AIP on head CT from [**6-17**], ? renal
   failure as a contributing factor.
   - Cont Abx Vanco (by level) last level is NOT a true trough,
   ceftriaxone, stopped acyclovir (neg HSV PCR today),
   - follow up clx
   >renal failure: cr stable with likely pre-existing hit from gentamiacin
   toxicity
   - renal dose medications
   > Atrial fibrillation:  prn IV beta blocker for now
   > Hypotension: likely [**3-4**] phenytoin load, now resolved with use of
   phosphenytoin. TTE was not remarkable for impaired contractility
   (moderate AS)
   >Intubation: changed to PS as he is able to breathe on his own, while
   on volume control he developed a respiratory alkalosis (pCO2: 29) and a
   his HCO3 decreased (possibly as a compensatory
   mechanism), he should equilibrate on PS. Can not extubate until his MS
   improves.
   - recheck ABG/lytes in PM on pressure support.
   Remaining issues per ICU resident note
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2176-6-17**] 08:38 AM
   22 Gauge - [**2176-6-18**] 04:00 AM
   Arterial Line - [**2176-6-19**] 05:30 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2176-06-21 07:18:00 Physician Resident Progress Note
Chief Complaint: Altered mental status
   24 Hour Events:
   - given additional dose of 5 mg/kg of phosphenytoin
   - neuro did not recommend any additional imaging or repeat LP
   History obtained from Medical records
   Patient unable to provide history: Sedated, Encephalopathy
   Allergies:
   Amoxicillin
   Nausea/Vomiting
   Penicillins
   Nausea/Vomiting
   Coumadin (Oral) (Warfarin Sodium)
   Unknown;
   Oxycodone
   Unknown;
   Megestrol Acetate
   Nausea/Vomiting
   Remeron (Oral) (Mirtazapine)
   Unknown;
   Ritalin (Oral) (Methylphenidate Hcl)
   Confusion/Delir
   Last dose of Antibiotics:
   Acyclovir - [**2176-6-18**] 06:29 PM
   Vancomycin - [**2176-6-19**] 08:00 PM
   Bactrim (SMX/TMP) - [**2176-6-21**] 02:00 AM
   Ceftriaxone - [**2176-6-21**] 06:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2176-6-21**] 06:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Ear, Nose, Throat: OG / NG tube
   Nutritional Support: Tube feeds
   Flowsheet Data as of  [**2176-6-21**] 07:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.9
C (98.4
   HR: 74 (70 - 133) bpm
   BP: 121/57(84) {93/43(62) - 152/80(111)} mmHg
   RR: 16 (14 - 22) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
             Total In:
                                                                  2,690 mL
                                                                    864 mL
   PO:
             TF:
                                                                  1,180 mL
                                                                    401 mL
   IVF:
                                                                  1,290 mL
                                                                    373 mL
   Blood products:
   Total out:
                                                                  1,264 mL
                                                                    392 mL
   Urine:
                                                                  1,264 mL
                                                                    392 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,426 mL
                                                                    472 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 494 (314 - 653) mL
   PS : 5 cmH2O
   RR (Set): 12
   RR (Spontaneous): 15
   PEEP: 5 cmH2O
   FiO2: 35%
   RSBI: 60
   PIP: 10 cmH2O
   Plateau: 15 cmH2O
   SpO2: 100%
   ABG: 7.44/31/370/18/-1
   Ve: 6.5 L/min
   PaO2 / FiO2: 1,057
   Physical Examination
   Intubated, eyes open slightly to verbal command, fixed straight
   PERRL, anicteric sclera, pinpoint pupils
   Irregularly irregular S1 S2 II/VI systolic murmur
   Lungs clear bilaterally on anterior exam
   Abdomen soft, +bowel sounds, nontender surgical wound well healing,
   suprapubic catheter and foley in place
   Extrem warm [**2-2**]+ dependent edema
   Not following commands, small response to verbal/painful stimuli, no
   clonus
   L antecub PICC without erythema or exudate, A line intact
   Labs / Radiology
   433 K/uL
   8.6 g/dL
   121 mg/dL
   2.2 mg/dL
   18 mEq/L
   4.2 mEq/L
   40 mg/dL
   110 mEq/L
   137 mEq/L
   25.9 %
   8.9 K/uL
        [image002.jpg]
   Other Urine Chemistry:
   Creat:26
   Na:75
   K:26
   HCO3:<5
                             [**2176-6-17**]  05:48 PM
                             [**2176-6-18**]  04:17 AM
                             [**2176-6-18**]  12:38 PM
                             [**2176-6-18**]  05:52 PM
                             [**2176-6-19**]  03:49 AM
                             [**2176-6-20**]  03:30 AM
                             [**2176-6-20**]  03:43 AM
                             [**2176-6-20**]  11:24 AM
                             [**2176-6-20**]  11:41 AM
                             [**2176-6-21**]  04:02 AM
   WBC
   14.7
   10.6
   10.3
   8.9
   Hct
   29.3
   26.8
   27.0
   27.2
   25.9
   Plt
   451
   466
   446
   433
   Cr
   2.0
   2.1
   2.2
   2.1
   2.1
   2.2
   TCO2
   22
   19
   22
   Glucose
   119
   79
   77
   146
   142
   121
   Other labs: PT / PTT / INR:15.2/42.7/1.3, ALT / AST:[**10-14**], Alk Phos / T
   Bili:/0.2, Lactic Acid:1.5 mmol/L, LDH:247 IU/L, Ca++:7.3 mg/dL,
   Mg++:2.1 mg/dL, PO4:2.6 mg/dL
   Sputum cx [**6-17**]: MRSA
   Sputum [**6-20**]: NGTD
   Blood, urine, stool cx: NGTD
   CXR [**6-20**]:
   Cardiac size is top normal. A small left pleural effusion is unchanged.
   ET
   tube is seen in standard position. NG tube tip is in the stomach, left
   tip is
   in the mid SVC. There are no lung consolidations. There is mild left
   pleural
   effusion, unchanged from prior.
   Assessment and Plan
   87 yo M with afib, T2 diabetes, dementia, s/p bladder rupture x2,
   recent repair, with h/o MDR UTIs, who presents with altered mental
   status, seizures,
   .
   * Altered mental status, r/o meningitis
   Suspect delirium secondary to infection, probably pneumonia with
   intermittent seizures. CSF picture complicated by traumatic LP, but
   can
t completely exclude meningitis and are treating for now. Line
   infection, recurrent intrabdominal infection, or UTI also entertained
   but less likely. Acute renal failure and medications (eg
   metaclopramide) could also be contributory.  Now may be very slow to
   clear given acute stress on underlying dementia
   - It appears that antibiotics were given PRIOR to LP in ER therefore
   cultures might be falsely negative. Continue vanc, ceftriaxone, bactrim
   for now. Check vanco troughs.
   - Follow up pending micro, reculture if febrile
   - Hold metaclopramide, wean sedation
   - Neurology recommendations appreciated -> role for continuing 24hr
   EEG, ?less sedating AEDs
   - No need for LP currently.
   - Watchful waiting
   .
   * Seizures
   Likely precipitated by acute infection ?meningitis
   - Now on phosphenytoin
   - f/u neurology  recs, EEG
   .
   * Vent
   Intubated in the ER for
airway protection.
  Tolerating PSV well
   currently
   - Cont PSV for now
   - No plans to extubate until mental status improves
   - Does have intermittent apeic episodes
   .
   * Non-anion gap acidosis: Stabilizing.  [**Month (only) 60**] have been compensatory
   response from forced CMV, blowing off C02 resulting in bicarb wasting.
   Also received NS in the setting of hypotension.  [**Month (only) 60**] also have
   underlying RTA given new renal failure.  Urine pH 6.5, with low
   bicarb.  [**Month (only) 60**] be type 1 RTA vs. his ARF continuing since last admission
   - f/u urine lytes
   - cont to trend
   - serial ABGs
   - no need for supplemental bicarb currently
   .
   * Acute renal failure
   Urine output from catheters adequate arguing against obstruction.
   BUN/Cr >20:1 at presentation suggesting prerenal picture, however  FeNA
   6.5% which is less consistent this (though urine obtained later in day
   in ICU). ATN less likely in absence of significant hypotension (SBP of
   60
s briefly x1 overnight probably not accurate [**Location (un) 308**]). Consider AIN
   in the setting of recent cefepime. Urine does have eos, but this is a
   non-specific finding.  Concerning for gent effect from last admission
   - Genlte IVF
   - Continue to follow urine output, Cr
   - Renally dose meds
   - Supportive care for now
   - If increases consider CTX as cause or bactrim
   .
   * Anemia
   Hct down 35->29 following IVF but was discharged with Hct ~30. No gross
   bleeding.  Now 25 and stable though slightly lower, no signs of active
   bleeding.  Likely phlebotomy effect + inflammation
   - Maintain active T+S, transfuse Hb>7
   - Cont to trend
   .
   * s/p Bladder repair: Has had 2 ruptures in the last 2 years.  Now with
   chronic Foley and SP catheter.  At last admission appeared to be
   healing well with clear drainage.  Though there was a fluid collection
   in the peritoneum, was non-specific finding.  Currently draining clear
   urine with benign exam.
   - Cont Foley and SP catheter to gravity
   - No acute interventions required at this time per uruology
   .
   * DM2: Blood sugars stable with current symptoms.
   - Cont glargine with HISS, QID fingersticks
   .
   * Afib: In Afib currently.  Rate controlled.  Not on coumadin given
   past hemorrhage.
   - Cont metoprolol as has bursts of afib at night
   - IV BB prn, watch BP
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2176-6-21**] 03:22 AM 55 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2176-6-17**] 08:38 AM
   Arterial Line - [**2176-6-19**] 05:30 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition:ICU
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   note above, including the assessment and plan. I would emphasize and
   add the following points:
   Mr [**Known lastname 8961**] is slow to arouse despite lack of clinical or EEG seizure
   activity ( off sedation). He needs continued supportive care ( On CPAP/
   PSV at 5/5 with stable ventilation) and antibiotic support for presumed
   CNS infection. All blood and CSF cultures have been negative to date.
   He has remained hemodynamically stable too.
   We will only attempt extubation when he is arousable and able to defend
   his airway
   Remainder of plan as outlined above.
   Patient is critically ill
   Total time: 40 min
   _________
   [**First Name8 (NamePattern2) **] [**Name8 (MD) 1973**],  MD
   Division of Pulmonary, Critical Care and Sleep Medicine
   [**Hospital1 1015**]
   [**Location (un) 7530**], KS-B23
   [**Location (un) 223**], [**Numeric Identifier 4370**]
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Name8 (MD) 1973**], MD
   on:[**2176-6-21**] 12:45 ------

2176-06-22 07:44:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Updated family
   - Continued to monitor mental status
   - Tolerating PSV 5/5 with ABG: 7.44/26/171
   Allergies:
   Amoxicillin
   Nausea/Vomiting
   Penicillins
   Nausea/Vomiting
   Coumadin (Oral) (Warfarin Sodium)
   Unknown;
   Oxycodone
   Unknown;
   Megestrol Acetate
   Nausea/Vomiting
   Remeron (Oral) (Mirtazapine)
   Unknown;
   Ritalin (Oral) (Methylphenidate Hcl)
   Confusion/Delir
   Last dose of Antibiotics:
   Ceftriaxone - [**2176-6-21**] 06:00 AM
   Vancomycin - [**2176-6-21**] 10:00 PM
   Bactrim (SMX/TMP) - [**2176-6-22**] 02:25 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2176-6-21**] 12:00 PM
   Fosphenytoin - [**2176-6-22**] 07:39 AM
   Lansoprazole (Prevacid) - [**2176-6-22**] 07:40 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2176-6-22**] 07:43 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 36.7
C (98.1
   HR: 111 (71 - 113) bpm
   BP: 138/69(99) {89/48(70) - 149/76(108)} mmHg
   RR: 16 (16 - 22) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 68 Inch
             Total In:
                                                                  3,477 mL
                                                                  1,064 mL
   PO:
             TF:
                                                                  1,327 mL
                                                                    427 mL
   IVF:
                                                                  1,940 mL
                                                                    577 mL
   Blood products:
   Total out:
                                                                  1,972 mL
                                                                  1,280 mL
   Urine:
                                                                  1,772 mL
                                                                  1,280 mL
   NG:
   Stool:
                                                                    200 mL
   Drains:
   Balance:
                                                                  1,505 mL
                                                                   -216 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 480 (126 - 530) mL
   PS : 5 cmH2O
   RR (Spontaneous): 18
   PEEP: 5 cmH2O
   FiO2: 35%
   RSBI: 60
   PIP: 11 cmH2O
   SpO2: 100%
   ABG: 7.44/28/177/18/-3
   Ve: 8.6 L/min
   PaO2 / FiO2: 506
   Physical Examination
   Intubated, eyes open slightly to verbal command, fixed straight
   PERRL, anicteric sclera, pinpoint pupils
   Irregularly irregular S1 S2 II/VI systolic murmur
   Lungs clear bilaterally on anterior exam
   Abdomen soft, +bowel sounds, nontender surgical wound well healing,
   suprapubic catheter and foley in place
   Extrem warm [**2-2**]+ dependent edema
   Not following commands, small response to verbal/painful stimuli, no
   clonus
   L antecub PICC without erythema or exudate, A line intact
   Labs / Radiology
   429 K/uL
   8.7 g/dL
   141 mg/dL
   2.2 mg/dL
   18 mEq/L
   4.6 mEq/L
   40 mg/dL
   106 mEq/L
   134 mEq/L
   26.4 %
   9.1 K/uL
        [image002.jpg]
                             [**2176-6-18**]  05:52 PM
                             [**2176-6-19**]  03:49 AM
                             [**2176-6-20**]  03:30 AM
                             [**2176-6-20**]  03:43 AM
                             [**2176-6-20**]  11:24 AM
                             [**2176-6-20**]  11:41 AM
                             [**2176-6-21**]  04:02 AM
                             [**2176-6-21**]  12:14 PM
                             [**2176-6-22**]  05:10 AM
                             [**2176-6-22**]  05:27 AM
   WBC
   10.6
   10.3
   8.9
   9.1
   Hct
   26.8
   27.0
   27.2
   25.9
   26.4
   Plt
   466
   446
   433
   429
   Cr
   2.2
   2.1
   2.1
   2.2
   2.2
   TCO2
   19
   22
   18
   20
   Glucose
   77
   146
   142
   121
   141
   Other labs: PT / PTT / INR:15.2/42.7/1.3, ALT / AST:[**10-14**], Alk Phos / T
   Bili:/0.2, Lactic Acid:1.5 mmol/L, LDH:247 IU/L, Ca++:7.4 mg/dL,
   Mg++:2.0 mg/dL, PO4:2.5 mg/dL
   Assessment and Plan
   87 yo M with afib, T2 diabetes, dementia, s/p bladder rupture x2,
   recent repair, with h/o MDR UTIs admitted with altered mental status,
   seizures,
   Altered mental status,
   Etiology is likely related to delirium in the setting of infection and
   seizures. CSF was traumatic but cannot exclude meningitis. Additional
   possibilities include renal failure. Additional possibility includes
   seizures as had some seizure activity on recent EEGWill likely be slow
   to clear in the setting of background dementia.
   - appreciate neurology.
   - continue vancomycin, ceftriaxone, and bactrim day 5
   - follow-up pending blood cultures
   - continue phosphenytoin
   2.  Seizures
   Likely precipitated by acute infection ?meningitis
   - Now on phosphenytoin
   - f/u neurology  recs, EEG
   .
   3. Respiratory Failure
   Patient was intubated in the ER for
airway protection.
  Tolerating
   PSV well currently
   - Cont PSV for now
   - No plans to extubate until mental status improves
   - Does have intermittent apneic episodes
   - if mental status improves, consider extubation
   - SBT today
   .
   4. Non-anion gap acidosis: Stabilizing.  [**Month (only) 60**] have been compensatory
   response from forced CMV, blowing off C02 resulting in bicarb wasting.
   Also received NS in the setting of hypotension.  [**Month (only) 60**] also have
   underlying RTA given new renal failure.  Urine pH 6.5, with low
   bicarb.  [**Month (only) 60**] be type 1 RTA vs. his ARF continuing since last admission
   - cont to trend
   - serial ABGs
   - no need for supplemental bicarb currently
   .
   5. Acute renal failure
   Urine output from catheters adequate arguing against obstruction.
   BUN/Cr >20:1 at presentation suggesting prerenal picture, however  FeNA
   6.5% which is less consistent this (though urine obtained later in day
   in ICU). ATN less likely in absence of significant hypotension (SBP of
   60
s briefly x1 overnight probably not accurate [**Location (un) 308**]). Consider AIN
   in the setting of recent cefepime. Urine does have eos, but this is a
   non-specific finding.  Concerning for gent effect from last admission
   - Genlte IVF
   - Continue to follow urine output, Cr
   - Renally dose meds
   - Supportive care for now
   - If increases consider CTX as cause or bactrim
   .
   6. Anemia
   Hct down 35->29 following IVF but was discharged with Hct ~30. No gross
   bleeding.  Now 25 and stable though slightly lower, no signs of active
   bleeding.  Likely phlebotomy effect + inflammation
   - Maintain active T+S, transfuse Hb>7
   - Cont to trend
   .
   7. s/p Bladder repair: Has had 2 ruptures in the last 2 years.  Now
   with chronic Foley and SP catheter.  At last admission appeared to be
   healing well with clear drainage.  Though there was a fluid collection
   in the peritoneum, was non-specific finding.  Currently draining clear
   urine with benign exam.
   - Cont Foley and SP catheter to gravity
   - No acute interventions required at this time per uruology
   .
   8. DM2: Blood sugars stable with current symptoms.
   - Cont glargine with HISS, QID fingersticks
   .
   9 Afib: In Afib currently.  Rate controlled.  Not on coumadin given
   past hemorrhage.
   - Cont metoprolol as has bursts of afib at night
   - IV BB prn, watch BP
   .
   10 LUE Swelling: [**Month (only) 60**] be related to PICC.
   - RUQ U/S to assess for DVT
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2176-6-22**] 06:05 AM 55 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2176-6-17**] 08:38 AM
   Arterial Line - [**2176-6-19**] 05:30 AM
   Prophylaxis:
   DVT: heparin SC
   Stress ulcer: lansoprazole
   VAP:  mouth care
   Comments:
   Communication:  Comments:
   Code status: FULL CODE
   Disposition:ICU

2176-06-22 11:18:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   87 yo M with afib, T2 diabetes, dementia, s/p bladder rupture x2,
   recent repair, with h/o MDR UTIs, admitted with altered mental status,
   seizures +/- meningitis.
   24 Hour Events:
   no overnight events. no sedation x about 48h without sig improvement in
   interaction. Stable on PSV
   Allergies:
   Amoxicillin
   Nausea/Vomiting
   Penicillins
   Nausea/Vomiting
   Coumadin (Oral) (Warfarin Sodium)
   Unknown;
   Oxycodone
   Unknown;
   Megestrol Acetate
   Nausea/Vomiting
   Remeron (Oral) (Mirtazapine)
   Unknown;
   Ritalin (Oral) (Methylphenidate Hcl)
   Confusion/Delir
   Last dose of Antibiotics:
   Ceftriaxone - [**2176-6-21**] 06:00 AM
   Vancomycin - [**2176-6-21**] 10:00 PM
   Bactrim (SMX/TMP) - [**2176-6-22**] 10:48 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2176-6-21**] 12:00 PM
   Fosphenytoin - [**2176-6-22**] 07:39 AM
   Lansoprazole (Prevacid) - [**2176-6-22**] 07:40 AM
   Other medications:
   Colace, Lansoprazole, RISS, Hep 5k tid, Peridex, CTX 2g q12, Bactrim
   250 iv q8, phosphenytoin, Vanco, Lopressor
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2176-6-22**] 11:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 36.7
C (98.1
   HR: 83 (68 - 113) bpm
   BP: 112/53(79) {89/48(69) - 140/70(100)} mmHg
   RR: 19 (16 - 21) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
             Total In:
                                                                  3,477 mL
                                                                  1,778 mL
   PO:
             TF:
                                                                  1,327 mL
                                                                    608 mL
   IVF:
                                                                  1,940 mL
                                                                  1,110 mL
   Blood products:
   Total out:
                                                                  1,972 mL
                                                                  1,585 mL
   Urine:
                                                                  1,772 mL
                                                                  1,585 mL
   NG:
   Stool:
                                                                    200 mL
   Drains:
   Balance:
                                                                  1,505 mL
                                                                    193 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 480 (126 - 489) mL
   PS : 5 cmH2O
   RR (Spontaneous): 18
   PEEP: 5 cmH2O
   FiO2: 35%
   RSBI: 60
   PIP: 11 cmH2O
   SpO2: 100%
   ABG: 7.44/28/177/18/-3
   Ve: 8.6 L/min
   PaO2 / FiO2: 506
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic), apical
   systolic murmur
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, abd staples present, incision and
   suprapubic cath site c/d/i
   Extremities: Right: 1+, Left: 1+, LUE swelling, asymmetric
   Skin:  Not assessed
   Neurologic: Follows simple commands, Responds to: Verbal stimuli,
   Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.7 g/dL
   429 K/uL
   141 mg/dL
   2.2 mg/dL
   18 mEq/L
   4.6 mEq/L
   40 mg/dL
   106 mEq/L
   134 mEq/L
   26.4 %
   9.1 K/uL
        [image002.jpg]
                             [**2176-6-18**]  05:52 PM
                             [**2176-6-19**]  03:49 AM
                             [**2176-6-20**]  03:30 AM
                             [**2176-6-20**]  03:43 AM
                             [**2176-6-20**]  11:24 AM
                             [**2176-6-20**]  11:41 AM
                             [**2176-6-21**]  04:02 AM
                             [**2176-6-21**]  12:14 PM
                             [**2176-6-22**]  05:10 AM
                             [**2176-6-22**]  05:27 AM
   WBC
   10.6
   10.3
   8.9
   9.1
   Hct
   26.8
   27.0
   27.2
   25.9
   26.4
   Plt
   466
   446
   433
   429
   Cr
   2.2
   2.1
   2.1
   2.2
   2.2
   TCO2
   19
   22
   18
   20
   Glucose
   77
   146
   142
   121
   141
   Other labs: PT / PTT / INR:15.2/42.7/1.3, ALT / AST:[**10-14**], Alk Phos / T
   Bili:/0.2, Lactic Acid:1.5 mmol/L, LDH:247 IU/L, Ca++:7.4 mg/dL,
   Mg++:2.0 mg/dL, PO4:2.5 mg/dL
   Imaging: CXR ([**6-22**])-
   Assessment and Plan
 ALTERED MENTAL STATUS- due to infection +/- seizure. Considering
   meningitis or pulm source but no culture data to guide
   -following cultures
   -on vanco + Bactrim + CTX
   -on phosphenytoin per Neuro rec's
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
   -requires suctioning q1-2 hrs impacting ability to extubate.
   -mental status slighlty better
   -SBT trial today and consider extubation if secretions decreaed.
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)- poss gent toxicity,
   also poss AIN given urine eos and prior ABX
   - Continue to follow urine output, Cr
   - Renally dose meds
   - Supportive care for now
   - If increases consider CTX as cause or bactrim
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2176-6-22**] 09:47 AM 55 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2176-6-17**] 08:38 AM
   Arterial Line - [**2176-6-19**] 05:30 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Critically ill
   Disposition :ICU
   Total time spent: 30 minutes

2176-06-23 06:11:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ULTRASOUND - At [**2176-6-22**] 06:20 PM
   LUE
   - updated family
   - left upper extremity swelling noted and left upper extremity
   ultrasound negative
   - doing well on PS 5/5
   - ETT advanced
   Allergies:
   Amoxicillin
   Nausea/Vomiting
   Penicillins
   Nausea/Vomiting
   Coumadin (Oral) (Warfarin Sodium)
   Unknown;
   Oxycodone
   Unknown;
   Megestrol Acetate
   Nausea/Vomiting
   Remeron (Oral) (Mirtazapine)
   Unknown;
   Ritalin (Oral) (Methylphenidate Hcl)
   Confusion/Delir
   Last dose of Antibiotics:
   Vancomycin - [**2176-6-21**] 10:00 PM
   Ceftriaxone - [**2176-6-22**] 05:10 PM
   Bactrim (SMX/TMP) - [**2176-6-23**] 02:26 AM
   Infusions:
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2176-6-22**] 07:40 AM
   Heparin Sodium (Prophylaxis) - [**2176-6-22**] 10:00 PM
   Fosphenytoin - [**2176-6-23**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2176-6-23**] 06:10 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 37.2
C (99
   HR: 111 (68 - 111) bpm
   BP: 130/66(93) {105/48(69) - 178/100(129)} mmHg
   RR: 19 (14 - 25) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 68 Inch
             Total In:
                                                                  3,023 mL
                                                                    786 mL
   PO:
             TF:
                                                                  1,323 mL
                                                                    185 mL
   IVF:
                                                                  1,540 mL
                                                                    561 mL
   Blood products:
   Total out:
                                                                  3,515 mL
                                                                    450 mL
   Urine:
                                                                  3,515 mL
                                                                    450 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -492 mL
                                                                    336 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 420 (361 - 482) mL
   PS : 5 cmH2O
   RR (Spontaneous): 23
   PEEP: 5 cmH2O
   FiO2: 35%
   RSBI: 70
   PIP: 11 cmH2O
   SpO2: 100%
   ABG: 7.44/29/180/18/-2
   Ve: 3 L/min
   PaO2 / FiO2: 514
   Physical Examination
   Intubated, eyes open slightly to verbal command, fixed straight
   PERRL, anicteric sclera, pinpoint pupils
   Irregularly irregular S1 S2 II/VI systolic murmur
   Lungs clear bilaterally on anterior exam
   Abdomen soft, +bowel sounds, nontender surgical wound well healing,
   suprapubic catheter and foley in place
   Extrem: 3+ UE Edema (L>R)
   Squeezed L hand on command, would not wiggle toes
   L antecub PICC without erythema or exudate, A line intact
   Labs / Radiology
   385 K/uL
   8.5 g/dL
   105 mg/dL
   2.2 mg/dL
   18 mEq/L
   4.8 mEq/L
   39 mg/dL
   107 mEq/L
   134 mEq/L
   25.7 %
   9.3 K/uL
        [image002.jpg]
                             [**2176-6-20**]  03:30 AM
                             [**2176-6-20**]  03:43 AM
                             [**2176-6-20**]  11:24 AM
                             [**2176-6-20**]  11:41 AM
                             [**2176-6-21**]  04:02 AM
                             [**2176-6-21**]  12:14 PM
                             [**2176-6-22**]  05:10 AM
                             [**2176-6-22**]  05:27 AM
                             [**2176-6-22**]  10:41 PM
                             [**2176-6-23**]  03:46 AM
   WBC
   10.3
   8.9
   9.1
   9.3
   Hct
   27.2
   25.9
   26.4
   25.7
   Plt
   446
   433
   429
   385
   Cr
   2.1
   2.1
   2.2
   2.2
   2.2
   TCO2
   19
   22
   18
   20
   20
   Glucose
   146
   142
   121
   141
   105
   Other labs: PT / PTT / INR:15.2/42.7/1.3, ALT / AST:[**10-14**], Alk Phos / T
   Bili:/0.2, Lactic Acid:1.5 mmol/L, LDH:247 IU/L, Ca++:7.5 mg/dL,
   Mg++:1.9 mg/dL, PO4:2.6 mg/dL
   .
   Micro:
   [**6-17**], [**6-19**], [**6-20**] Blood cx NGTD
[**2176-6-19**] 4:19 pm SPUTUM      Source: Endotracheal.
   GRAM STAIN (Final [**2176-6-20**]):
      >25 PMNs and <10 epithelial cells/100X field.
      NO MICROORGANISMS SEEN.
   RESPIRATORY CULTURE (Preliminary):
      OROPHARYNGEAL FLORA ABSENT.
      YEAST.    SPARSE GROWTH.
      LEGIONELLA CULTURE (Preliminary):    NO LEGIONELLA ISOLATED.
   Imaging:
   [**6-22**] LUE U/S:
   IMPRESSION: Possible small amount of thrombosis around the PIC in the
   left
   brachial vein, without central clot.
   [**6-22**] CXR
   The ET tube tip is 6 cm above the carina. The Dobbhoff tube tip and the
   NG
   tube tip are in the very proximal stomach and should be advanced since
   they
   are just slightly below the gastroesophageal junction. The left lower
   lobe
   atelectasis is unchanged. Small bilateral pleural effusion is present.
   The
   left PICC line tip is at the junction of left brachiocephalic vein and
   SVC.
   Assessment and Plan
   87 yo M with afib, T2 diabetes, dementia, s/p bladder rupture x2,
   recent repair, with h/o MDR UTIs admitted with altered mental status
   and seizures.
   1. Altered mental status
   Etiology is likely related to delirium in the setting of infection and
   seizures. CSF was traumatic but cannot exclude meningitis. Additional
   possibilities include renal failure and seizures as had some seizure
   activity on recent EEG. Will likely be slow to clear in the setting of
   background dementia.
   - appreciate neurology.
   - continue vancomycin, ceftriaxone, and bactrim for 14 day course
   - follow-up pending blood cultures
   - continue phosphenytoin for seizure treatment
   2.  Seizures
   Likely precipitated by acute infection ?meningitis
   - Now on phosphenytoin
   - f/u neurology  recs
   3. Respiratory Failure
   Patient was intubated in the ER for airway protection. Tolerating PSV
   well currently and successful SBT currently.  Has cough and gag reflex.
   Although patient has secretions, his mental status has improved over
   the last 48-72 hours.
   - will extubate today
   4. Non-anion gap acidosis: Stabilizing.  [**Month (only) 60**] have been compensatory
   response from forced CMV, blowing off C02 resulting in bicarb wasting.
   Also received NS in the setting of hypotension.  [**Month (only) 60**] also have
   underlying RTA given new renal failure.  Urine pH 6.5, with low
   bicarb.  [**Month (only) 60**] be type 1 RTA vs. his ARF continuing since last admission
   - cont to trend
   - serial ABGs
   - no need for supplemental bicarb currently
   5. Acute renal failure
   Etiology thought likely related to gentamicin during prior admission.
   Urine output from catheters adequate arguing against obstruction.
   BUN/Cr >20:1 at presentation suggesting prerenal picture, however  FeNA
   6.5% which is less consistent this (though urine obtained later in day
   in ICU). ATN less likely in absence of significant hypotension (SBP of
   60
s briefly x1 overnight probably not accurate [**Location (un) 308**]).
   - Gentle IVF
   - Continue to follow urine output, Cr
   - Renally dose meds
   - Supportive care for now
   - If increases consider CTX as cause or bactrim
   6. Anemia
   Hct down 35->29 following IVF but was discharged with Hct ~30. No gross
   bleeding.  Now 25 and stable though slightly lower, no signs of active
   bleeding.  Likely phlebotomy effect + inflammation
   - Maintain active T+S, transfuse Hb>7
   - Cont to trend
   7. s/p Bladder repair: Has had 2 ruptures in the last 2 years.  Now
   with chronic Foley and SP catheter.  At last admission appeared to be
   healing well with clear drainage.  Though there was a fluid collection
   in the peritoneum, was non-specific finding.  Currently draining clear
   urine with benign exam.
   - Cont Foley and SP catheter to gravity
   - No acute interventions required at this time per urology
   8. DM2: Blood sugars stable with current symptoms.
   - Cont glargine with HISS, QID fingersticks
   9 Afib: In Afib currently.  Rate controlled.  Not on coumadin given
   past hemorrhage.
   - increase metoproll to 37.5mg
   - IV BB prn, watch BP
   10 LUE Swelling: [**Month (only) 60**] be related to PICC.  LE US demonstrated PICC
   associated DVT.
   - pull PICC line
   - central line placement prior to PICC line
   ICU Care
   Nutrition: Tube feeds
   Glycemic Control:  BS well-controlled, on glargine 6 U  qhs and ss
   humalog
   Lines:
   PICC Line - [**2176-6-17**] 08:38 AM
   Arterial Line - [**2176-6-19**] 05:30 AM
   - pull PICC line
   - place central line
   Prophylaxis:
   DVT: SC Heparin
   Stress ulcer: Lansoprazole
   VAP:
   Comments:
   Communication:  Comments:
   Code status:  FULL CODE
   Disposition: ICU for now

2176-06-23 08:45:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   87 yo male admitted with altered mental status presumed to be related
   to seizures +/- meningitis, though infectious workup has been negative.
   24 Hour Events:
   SBT this morning, requiring suctioning q1-2 hrs
   On day 7 CTX + Vancomycin + day 4 Bactrim
   Patient unable to provide history: Encephalopathy
   Allergies:
   Amoxicillin
   Nausea/Vomiting
   Penicillins
   Nausea/Vomiting
   Coumadin (Oral) (Warfarin Sodium)
   Unknown;
   Oxycodone
   Unknown;
   Megestrol Acetate
   Nausea/Vomiting
   Remeron (Oral) (Mirtazapine)
   Unknown;
   Ritalin (Oral) (Methylphenidate Hcl)
   Confusion/Delir
   Last dose of Antibiotics:
   Vancomycin - [**2176-6-21**] 10:00 PM
   Bactrim (SMX/TMP) - [**2176-6-23**] 02:26 AM
   Ceftriaxone - [**2176-6-23**] 06:23 AM
   Infusions:
   Other ICU medications:
   Fosphenytoin - [**2176-6-23**] 07:58 AM
   Lansoprazole (Prevacid) - [**2176-6-23**] 07:59 AM
   Heparin Sodium (Prophylaxis) - [**2176-6-23**] 07:59 AM
   Other medications:
   Colace, Hep 5k tid, Peridex, Phosphenytoind, Lopressor, RISS
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2176-6-23**] 08:45 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 37.2
C (98.9
   HR: 86 (68 - 113) bpm
   BP: 118/56(79) {105/48(69) - 178/100(129)} mmHg
   RR: 17 (14 - 25) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
             Total In:
                                                                  3,022 mL
                                                                  1,189 mL
   PO:
             TF:
                                                                  1,322 mL
                                                                    456 mL
   IVF:
                                                                  1,540 mL
                                                                    633 mL
   Blood products:
   Total out:
                                                                  3,515 mL
                                                                  1,000 mL
   Urine:
                                                                  3,515 mL
                                                                  1,000 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -493 mL
                                                                    189 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 386 (361 - 482) mL
   PS : 5 cmH2O
   RR (Spontaneous): 22
   PEEP: 0 cmH2O
   FiO2: 35%
   RSBI: 59
   PIP: 11 cmH2O
   SpO2: 99%
   ABG: 7.44/29/180/18/-2
   Ve: 7.2 L/min
   PaO2 / FiO2: 514
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic), soft
   precordial apical
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : ant)
   Abdominal: Soft, Non-tender
   Extremities: Right: 2+, Left: 2+, L> R UE edema
   Skin:  Not assessed
   Neurologic: Follows simple commands, Responds to: Verbal stimuli,
   Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.5 g/dL
   385 K/uL
   105 mg/dL
   2.2 mg/dL
   18 mEq/L
   4.8 mEq/L
   39 mg/dL
   107 mEq/L
   134 mEq/L
   25.7 %
   9.3 K/uL
        [image002.jpg]
                             [**2176-6-20**]  03:30 AM
                             [**2176-6-20**]  03:43 AM
                             [**2176-6-20**]  11:24 AM
                             [**2176-6-20**]  11:41 AM
                             [**2176-6-21**]  04:02 AM
                             [**2176-6-21**]  12:14 PM
                             [**2176-6-22**]  05:10 AM
                             [**2176-6-22**]  05:27 AM
                             [**2176-6-22**]  10:41 PM
                             [**2176-6-23**]  03:46 AM
   WBC
   10.3
   8.9
   9.1
   9.3
   Hct
   27.2
   25.9
   26.4
   25.7
   Plt
   446
   433
   429
   385
   Cr
   2.1
   2.1
   2.2
   2.2
   2.2
   TCO2
   19
   22
   18
   20
   20
   Glucose
   146
   142
   121
   141
   105
   Other labs: PT / PTT / INR:15.2/42.7/1.3, ALT / AST:[**10-14**], Alk Phos / T
   Bili:/0.2, Lactic Acid:1.5 mmol/L, LDH:247 IU/L, Ca++:7.5 mg/dL,
   Mg++:1.9 mg/dL, PO4:2.6 mg/dL
   Imaging: UENI ([**6-22**])- nonocclusive clot around PICC in LUE
   CXR ([**6-23**])- L pleural effusion, ETT 2-3cm above carina, OGT in stomach,
   L UE PICC tip in SVC
   Microbiology: [**6-17**] Blood- neg
   [**6-19**] Blood- neg
   [**6-19**] Sputum- yeast
   [**6-20**] Blood- neg
   Assessment and Plan
 ALTERED MENTAL STATUS
   -presumed due to infection +/- seizure.
   -in terms of potential sources, meningitis or pulm source potential but
   no positive cx data to guide.
   -more interactive today than previously
   -on vanco + Bactrim + CTX --> will complete a 14d course of empiric ABX
   for presumed bacterial meningitis w/ neg cultures
   -on phosphenytoin per Neuro rec's --> recheck level today
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
   - has been stable on PSV for several days, tolerated SBT last two days
   -plan on extubation this am following central venous catheter placement
   -still requires suctioning q2 hrs
   -will discuss extubation with family and re-address risk of
   re-intubation prior
 ATRIAL FIBRILLATION (AFIB)
   -titrate up metoprolol for rate control
   -no coumadin due to past hemorrhage
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   - poss gent toxicity, also poss AIN given urine eos and prior ABX
   - Continue to follow urine output, Cr
   - Renally dose meds
   - Supportive care for now
 LUE swelling
   - found to have clot on PICC
   -plan to pull today, given access issues and difficulty obtaining
   replacement PICC on weekend
   -will plan to place triple-lumen CVC
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2176-6-22**] 10:49 PM 55 mL/hour
   Glycemic Control:  Regular insulin sliding scale, Blood sugar well
   controlled
   Lines:
   PICC Line - [**2176-6-17**] 08:38 AM
   Arterial Line - [**2176-6-19**] 05:30 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes

2176-06-24 07:19:00 Physician Resident Progress Note
Chief Complaint: Altered mental status
   24 Hour Events:
 PICC LINE - START [**2176-6-23**] 02:16 PM
 PICC LINE - STOP [**2176-6-23**] 04:01 PM
   - New PICC placed, old PICC pulled
   - chose not to extubate as appeared to be tiring late in the day after
   PICC placment.  will plan to extubate in am.
   - Spoke w/ wife.
   - Periods of apnea noted, MRI ordered to r/o new intra-cranial
   pathology
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   Amoxicillin
   Nausea/Vomiting
   Penicillins
   Nausea/Vomiting
   Coumadin (Oral) (Warfarin Sodium)
   Unknown;
   Oxycodone
   Unknown;
   Megestrol Acetate
   Nausea/Vomiting
   Remeron (Oral) (Mirtazapine)
   Unknown;
   Ritalin (Oral) (Methylphenidate Hcl)
   Confusion/Delir
   Last dose of Antibiotics:
   Vancomycin - [**2176-6-21**] 10:00 PM
   Bactrim (SMX/TMP) - [**2176-6-24**] 02:00 AM
   Ceftriaxone - [**2176-6-24**] 06:33 AM
   Infusions:
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2176-6-23**] 07:59 AM
   Heparin Sodium (Prophylaxis) - [**2176-6-23**] 10:00 PM
   Fosphenytoin - [**2176-6-24**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2176-6-24**] 07:19 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 36.6
C (97.8
   HR: 112 (68 - 113) bpm
   BP: 122/65(90) {116/53(77) - 158/103(117)} mmHg
   RR: 18 (13 - 26) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 68 Inch
             Total In:
                                                                  2,959 mL
                                                                    655 mL
   PO:
             TF:
                                                                    959 mL
                                                                     32 mL
   IVF:
                                                                  1,840 mL
                                                                    623 mL
   Blood products:
   Total out:
                                                                  2,515 mL
                                                                    700 mL
   Urine:
                                                                  2,515 mL
                                                                    700 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    444 mL
                                                                    -45 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: MMV/PSV/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 435 (401 - 744) mL
   PS : 5 cmH2O
   RR (Set): 10
   RR (Spontaneous): 21
   PEEP: 5 cmH2O
   FiO2: 35%
   RSBI: 73
   PIP: 10 cmH2O
   SpO2: 99%
   ABG: ///20/
   Ve: 8.5 L/min
   Physical Examination
   Intubated, opens eyes to command, intervally more responsive
   PERRL, anicteric sclera, pinpoint pupils
   Irregularly irregular S1 S2 II/VI systolic murmur
   Lungs clear bilaterally on anterior exam
   Abdomen soft, +bowel sounds, nontender surgical wound well healing,
   suprapubic catheter and foley in place
   Extrem: 3+ UE Edema (L>R), ecchymoses over L hand
   Squeezed L hand on command, would not wiggle toes
   R PICC without erythema or exudate, A line intact
   Labs / Radiology
   375 K/uL
   8.3 g/dL
   66 mg/dL
   2.2 mg/dL
   20 mEq/L
   4.9 mEq/L
   38 mg/dL
   106 mEq/L
   135 mEq/L
   25.5 %
   7.4 K/uL
        [image002.jpg]
   Vanco [**6-23**]: 40.2
   Blood cx [**6-20**]: NGTD
                             [**2176-6-20**]  03:43 AM
                             [**2176-6-20**]  11:24 AM
                             [**2176-6-20**]  11:41 AM
                             [**2176-6-21**]  04:02 AM
                             [**2176-6-21**]  12:14 PM
                             [**2176-6-22**]  05:10 AM
                             [**2176-6-22**]  05:27 AM
                             [**2176-6-22**]  10:41 PM
                             [**2176-6-23**]  03:46 AM
                             [**2176-6-24**]  04:21 AM
   WBC
   8.9
   9.1
   9.3
   7.4
   Hct
   25.9
   26.4
   25.7
   25.5
   Plt
   433
   429
   385
   375
   Cr
   2.1
   2.2
   2.2
   2.2
   2.2
   TCO2
   19
   22
   18
   20
   20
   Glucose
   142
   121
   141
   105
   66
   Other labs: PT / PTT / INR:15.2/42.7/1.3, ALT / AST:[**10-14**], Alk Phos / T
   Bili:/0.2, Lactic Acid:1.5 mmol/L, LDH:247 IU/L, Ca++:7.7 mg/dL,
   Mg++:1.9 mg/dL, PO4:3.0 mg/dL
   CXR:
   New right PIC line ends at the superior cavoatrial junction. Small
   bilateral
   pleural effusions and left basal atelectasis not appreciably changed
   since [**6-22**]. Left PIC line ends at the junction of the brachiocephalic veins,
   nasogastric tube ends in the stomach and an ET tube tip is
   approximately 4 cm
   above the carina. No pneumothorax. Incidental note made of an azygos
   fissure. Heart size normal.
   Assessment and Plan
 IMPAIRED SKIN INTEGRITY
 LEUKOCYTOSIS
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 HYPOTENSION (NOT SHOCK)
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
 DIABETES MELLITUS (DM), TYPE II
 HYPERTENSION, BENIGN
 ATRIAL FIBRILLATION (AFIB)
   87 yo M with afib, T2 diabetes, dementia, s/p bladder rupture x2,
   recent repair, with h/o MDR UTIs admitted with altered mental status
   and seizures.
   1. Altered mental status
   Etiology is likely related to delirium in the setting of infection and
   seizures. CSF was traumatic but cannot exclude meningitis. Additional
   possibilities include renal failure and seizures as had some seizure
   activity on recent EEG. Will likely be slow to clear in the setting of
   background dementia.
   - appreciate neurology.
   - continue vancomycin, ceftriaxone, and bactrim for 14 day course (D1 =
   [**6-17**])
   - follow-up pending blood cultures
   - continue phosphenytoin for seizure treatment
   - Repeat MRI
   2.  Seizures
   Likely precipitated by acute infection ?meningitis
   - Now on phosphenytoin w/o evidence of continued seizures
   - f/u neurology  recs
   - MRI brain today to eval for etiology
   3. Respiratory Failure
   Patient was intubated in the ER for airway protection. Tolerating PSV
   well currently and successful SBT currently.  Has cough and gag reflex.
   Although patient has secretions, his mental status has improved over
   the last 48-72 hours.
   - will extubate after MRI today vs tomorrow
   4. Non-anion gap acidosis: Resolving.  [**Month (only) 60**] have been compensatory
   response from forced CMV, blowing off C02 resulting in bicarb wasting.
   Also received NS in the setting of hypotension.  [**Month (only) 60**] also have
   underlying RTA given new renal failure.  Urine pH 6.5, with low
   bicarb.  [**Month (only) 60**] be type 1 RTA vs. his ARF continuing since last admission
   - cont to trend
   - serial ABGs
   - no need for supplemental bicarb
   5. Acute renal failure: Now at a new baseline
   Etiology thought likely related to gentamicin during prior admission.
   Urine output from catheters adequate arguing against obstruction.
   BUN/Cr >20:1 at presentation suggesting prerenal picture, however  FeNA
   6.5% which is less consistent this (though urine obtained later in day
   in ICU). ATN less likely in absence of significant hypotension (SBP of
   60
s briefly x1 overnight probably not accurate [**Location (un) 308**]).
   - Gentle IVF
   - Continue to follow urine output, Cr
   - Renally dose meds
   - Supportive care for now
   6. Anemia
   Hct down 35->29 following IVF but was discharged with Hct ~30. No gross
   bleeding.  Now 25 and stable though slightly lower, no signs of active
   bleeding.  Likely phlebotomy effect + inflammation
   - Maintain active T+S, transfuse Hb>7
   - Cont to trend
   7. s/p Bladder repair: Has had 2 ruptures in the last 2 years.  Now
   with chronic Foley and SP catheter.  At last admission appeared to be
   healing well with clear drainage.  Though there was a fluid collection
   in the peritoneum, was non-specific finding.  Currently draining clear
   urine with benign exam.
   - Cont Foley and SP catheter to gravity
   - No acute interventions required at this time per urology
   8. DM2: Blood sugars stable with current symptoms.
   - Cont glargine with HISS, QID fingersticks
   9 Afib: In Afib currently.  Rate controlled.  Not on coumadin given
   past hemorrhage.
   - increase metoproll to 37.5mg
   - IV BB prn, watch BP
   10 LUE Swelling: [**Month (only) 60**] be related to PICC.  LE US demonstrated PICC
   associated DVT.
   - pulled PICC line
   - New PICC placed
   - Cont to monitor -> elevate arm
   ICU Care
   Nutrition: tube feeds (held for potential extubation)
   Glycemic Control:
   Lines:
   Arterial Line - [**2176-6-19**] 05:30 AM
   PICC Line - [**2176-6-23**] 02:16 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition:ICU

2176-06-24 09:34:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   87 yo male admitted w/ depressed mental status related to seizure +/-
   CNS infection, intubated for airway protection.
   24 Hour Events:
   LUE PICC pulled after RUE PICC placed. No events
   Patient unable to provide history: Encephalopathy, Unresponsive
   Allergies:
   Amoxicillin
   Nausea/Vomiting
   Penicillins
   Nausea/Vomiting
   Coumadin (Oral) (Warfarin Sodium)
   Unknown;
   Oxycodone
   Unknown;
   Megestrol Acetate
   Nausea/Vomiting
   Remeron (Oral) (Mirtazapine)
   Unknown;
   Ritalin (Oral) (Methylphenidate Hcl)
   Confusion/Delir
   Last dose of Antibiotics:
   Vancomycin - [**2176-6-21**] 10:00 PM
   Bactrim (SMX/TMP) - [**2176-6-24**] 02:00 AM
   Ceftriaxone - [**2176-6-24**] 06:33 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2176-6-24**] 08:00 AM
   Fosphenytoin - [**2176-6-24**] 08:00 AM
   Other medications:
   RISS, Lantus, Docusate, Peridex, Phosphenytoin, metop 37.5 tid
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2176-6-24**] 09:34 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 36.1
C (96.9
   HR: 77 (68 - 113) bpm
   BP: 99/49(69) {99/49(69) - 158/103(117)} mmHg
   RR: 16 (13 - 26) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
             Total In:
                                                                  2,959 mL
                                                                    674 mL
   PO:
             TF:
                                                                    959 mL
                                                                     32 mL
   IVF:
                                                                  1,840 mL
                                                                    643 mL
   Blood products:
   Total out:
                                                                  2,515 mL
                                                                    990 mL
   Urine:
                                                                  2,515 mL
                                                                    990 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    444 mL
                                                                   -316 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: MMV/PSV/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 352 (352 - 744) mL
   PS : 5 cmH2O
   RR (Set): 10
   RR (Spontaneous): 21
   PEEP: 5 cmH2O
   FiO2: 35%
   RSBI: 73
   PIP: 10 cmH2O
   SpO2: 100%
   ABG: ///20/
   Ve: 9 L/min
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic), soft
   apical systolic murmur
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : ant)
   Extremities: Right: 1+, Left: 1+, decreased LUE swelling comapred to
   yesterday
   Skin:  Not assessed
   Neurologic: Follows simple commands, Responds to: Verbal stimuli,
   Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.3 g/dL
   375 K/uL
   66 mg/dL
   2.2 mg/dL
   20 mEq/L
   4.9 mEq/L
   38 mg/dL
   106 mEq/L
   135 mEq/L
   25.5 %
   7.4 K/uL
        [image002.jpg]
                             [**2176-6-20**]  03:43 AM
                             [**2176-6-20**]  11:24 AM
                             [**2176-6-20**]  11:41 AM
                             [**2176-6-21**]  04:02 AM
                             [**2176-6-21**]  12:14 PM
                             [**2176-6-22**]  05:10 AM
                             [**2176-6-22**]  05:27 AM
                             [**2176-6-22**]  10:41 PM
                             [**2176-6-23**]  03:46 AM
                             [**2176-6-24**]  04:21 AM
   WBC
   8.9
   9.1
   9.3
   7.4
   Hct
   25.9
   26.4
   25.7
   25.5
   Plt
   433
   429
   385
   375
   Cr
   2.1
   2.2
   2.2
   2.2
   2.2
   TCO2
   19
   22
   18
   20
   20
   Glucose
   142
   121
   141
   105
   66
   Other labs: PT / PTT / INR:15.2/42.7/1.3, ALT / AST:[**10-14**], Alk Phos / T
   Bili:/0.2, Lactic Acid:1.5 mmol/L, LDH:247 IU/L, Ca++:7.7 mg/dL,
   Mg++:1.9 mg/dL, PO4:3.0 mg/dL
   Fluid analysis / Other labs: vanco level ([**6-23**])- 40.4
   phosphenytoin ([**6-23**])- 6.2 (corrected level 10)
   Imaging: CXR ([**6-24**])- unchanged, ETT approx 4cm above carina, L-sided
   effusion unchanged
   Microbiology: No new cx data
   Assessment and Plan
 ALTERED MENTAL STATUS-presumed due to infection +/- seizure. in terms
   of potential sources, meningitis or pulm source potential but no
   positive cx data to guide.
   -more interactive today than previously
   -on vanco + Bactrim + CTX --> will complete a 14d course of empiric ABX
   for presumed bacterial meningitis w/ neg cultures
   -on phosphenytoin per Neuro rec's--> cont at same dose, level yest good
   -MRI brain this am to assess for irregular breathing patter seen
   yesterday
prelim read with no acute process
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
   - has been stable on PSV for several days, tolerated SBT last two days
   -was extubated after am rounds and doing well.   Will follow
   post-extubation abg.
 ATRIAL FIBRILLATION (AFIB)
   -rate control w/ metoprolol
   -no coumadin due to past hemorrhage
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   - poss gent toxicity, also poss AIN given urine eos and prior ABX
   - Continue to follow urine output, Cr
   - Renally dose meds
   - Supportive care for now
 LUE swelling- found to have clot on LUE PICC, PICC pulled and
   replaced w/ RUE PICC
   ICU Care
   Nutrition:
   Comments: tube feeds held this am
will need assistance with nutrition
   ngt/tfs as long as he continues to do well from resp standpoint
   post-extubation
   Glycemic Control:  Regular insulin sliding scale, Blood sugar well
   controlled
   Lines:
   Arterial Line - [**2176-6-19**] 05:30 AM
   PICC Line - [**2176-6-23**] 02:16 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 minutes

2176-06-25 07:29:00 Physician Resident Progress Note
Chief Complaint: altered mental status
   24 Hour Events:
   - MRI no acute processes
   - Vanco level 45 -> held vanco
   - Tolerated SBT well post MRI -> extubated successfully
   Allergies:
   Amoxicillin
   Nausea/Vomiting
   Penicillins
   Nausea/Vomiting
   Coumadin (Oral) (Warfarin Sodium)
   Unknown;
   Oxycodone
   Unknown;
   Megestrol Acetate
   Nausea/Vomiting
   Remeron (Oral) (Mirtazapine)
   Unknown;
   Ritalin (Oral) (Methylphenidate Hcl)
   Confusion/Delir
   Last dose of Antibiotics:
   Bactrim (SMX/TMP) - [**2176-6-25**] 02:10 AM
   Ceftriaxone - [**2176-6-25**] 06:09 AM
   Infusions:
   Other ICU medications:
   Metoprolol - [**2176-6-24**] 06:06 PM
   Heparin Sodium (Prophylaxis) - [**2176-6-24**] 10:02 PM
   Fosphenytoin - [**2176-6-25**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   None
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Speech unintelligible
   Flowsheet Data as of  [**2176-6-25**] 07:21 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.4
C (97.5
   HR: 115 (70 - 117) bpm
   BP: 133/71(98) {99/49(69) - 159/146(150)} mmHg
   RR: 16 (10 - 19) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 68 Inch
             Total In:
                                                                  1,462 mL
                                                                    623 mL
   PO:
             TF:
                                                                     32 mL
   IVF:
                                                                  1,340 mL
                                                                    623 mL
   Blood products:
   Total out:
                                                                  2,480 mL
                                                                    580 mL
   Urine:
                                                                  2,480 mL
                                                                    580 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,018 mL
                                                                     43 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   Ventilator mode: Standby
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 339 (257 - 352) mL
   PS : 5 cmH2O
   RR (Set): 10
   RR (Spontaneous): 0
   PEEP: 0 cmH2O
   FiO2: 50%
   PIP: 1 cmH2O
   SpO2: 100%
   ABG: ///19/
   Ve: 6.4 L/min
   Physical Examination
   Lying in bed, in no acute distress
   PEARL, dry MM
   Lungs with coarse breath sounds bilaterally, few wheezes no rales
   Tachycardic regular S1 S2 no m/r/g
   Abd soft +bowel sounds well healed midline surgical wound, suprapubic
   catheter and foley in place
   Extrem warm anasarca palpable pulses
   Opens eyes to voice, squeezing hands and wiggles toes to command
   (little movement of RLE this AM)
   Labs / Radiology
   387 K/uL
   8.7 g/dL
   85
   2.1 mg/dL
   19 mEq/L
   4.9 mEq/L
   34 mg/dL
   108 mEq/L
   137 mEq/L
   26.5 %
   6.7 K/uL
        [image002.jpg]
                             [**2176-6-20**]  11:41 AM
                             [**2176-6-21**]  04:02 AM
                             [**2176-6-21**]  12:14 PM
                             [**2176-6-22**]  05:10 AM
                             [**2176-6-22**]  05:27 AM
                             [**2176-6-22**]  10:41 PM
                             [**2176-6-23**]  03:46 AM
                             [**2176-6-24**]  04:21 AM
                             [**2176-6-25**]  05:50 AM
                             [**2176-6-25**]  06:00 AM
   WBC
   8.9
   9.1
   9.3
   7.4
   6.7
   Hct
   25.9
   26.4
   25.7
   25.5
   26.5
   Plt
   433
   429
   385
   375
   387
   Cr
   2.2
   2.2
   2.2
   2.2
   2.1
   TCO2
   22
   18
   20
   20
   Glucose
   121
   141
   105
   66
   64
   85
   Other labs: PT / PTT / INR:15.2/42.7/1.3, ALT / AST:[**10-14**], Alk Phos / T
   Bili:/0.2, Lactic Acid:1.5 mmol/L, LDH:247 IU/L, Ca++:8.0 mg/dL,
   Mg++:2.0 mg/dL, PO4:3.8 mg/dL
   Micro
   [**6-19**], [**6-20**] blood NGTD
   [**6-19**] sputum NGTD
   [**6-19**] stool C diff toxin negative
   [**6-17**] CSF negative
   [**6-17**] sputum MRSA
   [**6-17**] blood negative
   [**6-17**] urine negative
   [**6-24**] MRI head
   No evidence for acute ischemia.
   Slight progression of periventricular hyperintensity which could
   reflect
   progression of small vessel ischemia. Less likely, this could represent
   transependymal CSF flow from NPH.
   Foci of hypersignal in the right frontal and parietal lobe which were
   not
   present on the prior MRI may represent interval ischemia which is
   chronic
   CXR
   Bilateral small effusions with prominent hilar and vascularity
   Assessment and Plan
   87 yo M with afib, T2 diabetes, dementia, s/p bladder rupture x2,
   recent repair, with h/o MDR UTIs admitted with altered mental status
   and seizures.
   1. Altered mental status
   Slightly improved.  Now tracks, eyes open, occasionally follows
   commands.  Etiology of initial presentation is likely related to
   seizures delirium in the setting of infection and seizures. CSF was
   traumatic but cannot exclude meningitis. Additional possibilities
   include renal failure. Will likely be slow to clear in the setting of
   background dementia.
   - appreciate neurology recs.
   - continue vancomycin, ceftriaxone, and bactrim for 14 day course,
   currently d9 (D1 = [**6-17**])
   - hold vanco trough today is 31, repeat tomorrow dosing <20
   - follow-up pending blood cultures
   - continue phosphenytoin for seizure treatment
   2.  Seizures
   Appears to have stopped.  Likely precipitated by acute infection
   ?meningitis. MRI without any mass or evidence of recent stroke.
   - Now on phosphenytoin w/o evidence of continued seizures
   - f/u neurology  recs, will ask about utility of repeat EEG to eval for
   persistent seizures, will also ask about possibly switching to keppra
   3. Respiratory Failure
   Pt successfully extubated yesterday, had been intubated in ER for
   airway protection
   CXR today with evidence of fluid overload.
   - diurese with goal -1L negative
   4. Non-anion gap acidosis: Resolving.  [**Month (only) 60**] have been compensatory
   response from forced CMV, blowing off C02 resulting in bicarb wasting.
   Also received NS in the setting of hypotension.  [**Month (only) 60**] also have
   underlying RTA given new renal failure.  Urine pH 6.5, with low
   bicarb.  [**Month (only) 60**] be type 1 RTA vs. his ARF continuing since last admission
   - cont to trend
   - serial ABGs
   - no need for supplemental bicarb
   5. Acute renal failure: Now at a new baseline
   Etiology thought likely related to gentamicin during prior admission.
   Urine output from catheters adequate arguing against obstruction.
   BUN/Cr >20:1 at presentation suggesting prerenal picture, however  FeNA
   6.5% which is less consistent this (though urine obtained later in day
   in ICU). ATN less likely in absence of significant hypotension (SBP of
   60
s briefly x1 overnight probably not accurate [**Location (un) 308**]).
   - Continue to follow urine output, Cr
   - Renally dose meds
   6. Anemia
   Hct down 35->29 following IVF but was discharged with Hct ~30. No gross
   bleeding.  Now 25 and stable though slightly lower, no signs of active
   bleeding.  Likely phlebotomy effect + inflammation
   - Maintain active T+S, transfuse Hb>7
   - Cont to trend
   7. s/p Bladder repair: Has had 2 ruptures in the last 2 years.  Now
   with chronic Foley and SP catheter.  At last admission appeared to be
   healing well with clear drainage.  Though there was a fluid collection
   in the peritoneum, was non-specific finding.  Currently draining clear
   urine with benign exam.
   - Cont Foley and SP catheter to gravity
   - No acute interventions required at this time per urology
   8. DM2: Blood sugars stable with current symptoms.
   - Cont HISS, QID fingersticks
   9 Afib: In Afib currently and once again not [**Doctor Last Name **] controlled.  Not on
   coumadin given past hemorrhage.
   - continue metoprolol IV (will increase from 5 to 10 mg IV q 6)
   - EKG
   10 LUE Swelling: Likely related to PICC.  LE US demonstrated PICC
   associated DVT.
   - pulled PICC line
   - New PICC placed (will pull back as appears to be in RA)
   - Cont to monitor -> elevate arm
   ICU Care
   Nutrition:
   Comments: will place dopoff today
   Glycemic Control:  Blood sugar well controlled
   Lines:
   Arterial Line - [**2176-6-19**] 05:30 AM
   PICC Line - [**2176-6-23**] 02:16 PM
   Prophylaxis:
   DVT: Boots, sc heparin
   Stress ulcer: PPI, will change to IV until dopoff available
   VAP:  n/a
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition:ICU

2176-06-25 07:55:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   - INVASIVE VENTILATION - STOP [**2176-6-24**] 02:49 PM, extubated [**6-24**]
   - MRI neg for mass and ischemia
   History obtained from MD
   Allergies:
   Amoxicillin
   Nausea/Vomiting
   Penicillins
   Nausea/Vomiting
   Coumadin (Oral) (Warfarin Sodium)
   Unknown;
   Oxycodone
   Unknown;
   Megestrol Acetate
   Nausea/Vomiting
   Remeron (Oral) (Mirtazapine)
   Unknown;
   Ritalin (Oral) (Methylphenidate Hcl)
   Confusion/Delir
   Last dose of Antibiotics:
   Bactrim (SMX/TMP) - [**2176-6-25**] 02:10 AM
   Ceftriaxone - [**2176-6-25**] 06:09 AM
   Infusions:
   Other ICU medications:
   Metoprolol - [**2176-6-24**] 06:06 PM
   Heparin Sodium (Prophylaxis) - [**2176-6-24**] 10:02 PM
   Fosphenytoin - [**2176-6-25**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2176-6-25**] 07:55 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.4
C (97.5
   HR: 115 (70 - 117) bpm
   BP: 133/71(98) {99/49(69) - 159/146(150)} mmHg
   RR: 16 (10 - 19) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 68 Inch
             Total In:
                                                                  1,462 mL
                                                                    629 mL
   PO:
             TF:
                                                                     32 mL
   IVF:
                                                                  1,340 mL
                                                                    629 mL
   Blood products:
   Total out:
                                                                  2,480 mL
                                                                    580 mL
   Urine:
                                                                  2,480 mL
                                                                    580 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,018 mL
                                                                     49 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   Ventilator mode: Standby
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 339 (257 - 339) mL
   PS : 5 cmH2O
   RR (Set): 10
   RR (Spontaneous): 0
   PEEP: 0 cmH2O
   FiO2: 40-50%
   PIP: 1 cmH2O
   SpO2: 100%
   ABG: ///19/
   Ve: 6.4 L/min
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Bronchial: bases b/l)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace
   Skin:  Warm
   Neurologic: Attentive and tracking , Responds to: Verbal stimuli,
   Movement: Purposeful, Tone: Normal
   Labs / Radiology
   8.7 g/dL
   387 K/uL
   85
   2.1 mg/dL
   19 mEq/L
   4.9 mEq/L
   34 mg/dL
   108 mEq/L
   137 mEq/L
   26.5 %
   6.7 K/uL
        [image002.jpg]
                             [**2176-6-20**]  11:41 AM
                             [**2176-6-21**]  04:02 AM
                             [**2176-6-21**]  12:14 PM
                             [**2176-6-22**]  05:10 AM
                             [**2176-6-22**]  05:27 AM
                             [**2176-6-22**]  10:41 PM
                             [**2176-6-23**]  03:46 AM
                             [**2176-6-24**]  04:21 AM
                             [**2176-6-25**]  05:50 AM
                             [**2176-6-25**]  06:00 AM
   WBC
   8.9
   9.1
   9.3
   7.4
   6.7
   Hct
   25.9
   26.4
   25.7
   25.5
   26.5
   Plt
   433
   429
   385
   375
   387
   Cr
   2.2
   2.2
   2.2
   2.2
   2.1
   TCO2
   22
   18
   20
   20
   Glucose
   121
   141
   105
   66
   64
   85
   Other labs: PT / PTT / INR:15.2/42.7/1.3, ALT / AST:[**10-14**], Alk Phos / T
   Bili:/0.2, Lactic Acid:1.5 mmol/L, LDH:247 IU/L, Ca++:8.0 mg/dL,
   Mg++:2.0 mg/dL, PO4:3.8 mg/dL
   MRI [**6-24**]
   No evidence for acute ischemia.
   Slight progression of periventricular hyperintensity which could
   reflect
   progression of small vessel ischemia. Less likely, this could represent
   transependymal CSF flow from NPH.
   Foci of hypersignal in the right frontal and parietal lobe which were
   not
   present on the prior MRI may represent interval ischemia which is
   chronic
   .
   CXR: [**6-25**], low long vols, increasing pulm venous congestion, b/l small
   effusions.,  PICC line at the A-V junction
   Assessment and Plan
 ALTERED MENTAL STATUS-presumed due to infection +/- seizure. in terms
   of potential sources, meningitis or pulm source potential but no
   positive cx data to guide.  Does have base line dementia.
   -more interactive today than previous (minimally)
   -on vanco + Bactrim + CTX day 1 = [**6-17**] --> will complete a 14d course
   of empiric ABX for presumed bacterial meningitis w/ neg cultures
   (including listeria). Dosing Vanco by level.
   -on phosphenytoin per Neuro rec's--> cont at same dose, level yest
   good. Can we change to keppra?  Do we need a repeat EEG?
   -MRI brain no acute process, no evidence of  cerebritis/meningitis
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
   - extubated [**6-24**]
   - goal net neg 1L prn lasix as needed
   - Aspiration precautions
 ATRIAL FIBRILLATION (AFIB) with underlying AS and moderate MR
   (preserved EF)
   -rate control w/ metoprolol, increase to 10 mg IV q 6
   - check 12 lead ECG (? Afib vs sinus tach)
   -no coumadin due to past hemorrhage
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF): thought [**3-4**] gent
   toxicity (during prev bladder rupture)
   - Continue to follow urine output, Cr
   - Renaly dose meds
   - Supportive care for now
 LUE swelling- found to have clot on LUE PICC, PICC pulled and
   replaced w/ RUE PICC, needs to be pulled back
   > Nutrition and meds: needs a Dobhoff tube for now and if MS does not
   clear then consider PEG tube
   ICU Care
   Nutrition:
   Comments: NPO for now
   Glycemic Control:
   Lines:
   Arterial Line - [**2176-6-19**] 05:30 AM
   PICC Line - [**2176-6-23**] 02:16 PM, needs to be pulled back a little.
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes

2176-06-26 07:34:00 Physician Resident Progress Note
Chief Complaint: Altered mental status
   24 Hour Events:
   - dophoff placed (in stomache)
   - rapid afib to 120's in afternoon while on IV metoprolol only,
   restarted TID metoprolol tartarte with improvement in HR
   - no further clinical seizure activity
   - given 20mg IV lasix as running evening late in the evening
   - PICC pulled back
   Allergies:
   Amoxicillin
   Nausea/Vomiting
   Penicillins
   Nausea/Vomiting
   Coumadin (Oral) (Warfarin Sodium)
   Unknown;
   Oxycodone
   Unknown;
   Megestrol Acetate
   Nausea/Vomiting
   Remeron (Oral) (Mirtazapine)
   Unknown;
   Ritalin (Oral) (Methylphenidate Hcl)
   Confusion/Delir
   Last dose of Antibiotics:
   Bactrim (SMX/TMP) - [**2176-6-26**] 02:00 AM
   Ceftriaxone - [**2176-6-26**] 06:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2176-6-25**] 01:49 PM
   Fosphenytoin - [**2176-6-25**] 05:00 PM
   Heparin Sodium (Prophylaxis) - [**2176-6-25**] 10:00 PM
   Metoprolol - [**2176-6-26**] 12:00 AM
   Furosemide (Lasix) - [**2176-6-26**] 04:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Patient reports feeling
lousy
 today, speech continues to be
   dysarthric, denies pain
   Flowsheet Data as of  [**2176-6-26**] 07:34 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 36.4
C (97.6
   HR: 112 (73 - 117) bpm
   BP: 111/81(97) {81/57(68) - 164/127(134)} mmHg
   RR: 18 (13 - 27) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 68 Inch
             Total In:
                                                                  1,580 mL
                                                                  1,062 mL
   PO:
             TF:
                                                                    180 mL
                                                                    337 mL
   IVF:
                                                                  1,350 mL
                                                                    625 mL
   Blood products:
   Total out:
                                                                  1,525 mL
                                                                  1,400 mL
   Urine:
                                                                  1,525 mL
                                                                  1,400 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     55 mL
                                                                   -338 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 99%
   ABG: ////
   Physical Examination
   Lying in bed, alert, in no acute distress
   PEARL, dry MM, dobhoff in place
   Lungs with coarse breath sounds bilaterally, few wheezes no rales, poor
   respiratory effort by patient
   Irregularly irregular, no m/r/g
   Abd soft +bowel sounds well healed midline surgical wound, suprapubic
   catheter and foley in place
   Extrem warm anasarca palpable pulses
   Opens/closes eyes to command, squeezing hands and wiggles toes to
   command (LLE> RLE this AM)
   Labs / Radiology
   405 K/uL
   8.8 g/dL
   85
   2.1 mg/dL
   19 mEq/L
   4.9 mEq/L
   34 mg/dL
   108 mEq/L
   137 mEq/L
   26.9 %
   6.6 K/uL
        [image002.jpg]
                             [**2176-6-21**]  04:02 AM
                             [**2176-6-21**]  12:14 PM
                             [**2176-6-22**]  05:10 AM
                             [**2176-6-22**]  05:27 AM
                             [**2176-6-22**]  10:41 PM
                             [**2176-6-23**]  03:46 AM
                             [**2176-6-24**]  04:21 AM
                             [**2176-6-25**]  05:50 AM
                             [**2176-6-25**]  06:00 AM
                             [**2176-6-26**]  05:21 AM
   WBC
   8.9
   9.1
   9.3
   7.4
   6.7
   6.6
   Hct
   25.9
   26.4
   25.7
   25.5
   26.5
   26.9
   Plt
   433
   429
   385
   375
   387
   405
   Cr
   2.2
   2.2
   2.2
   2.2
   2.1
   TCO2
   18
   20
   20
   Glucose
   121
   141
   105
   66
   64
   85
   Other labs: PT / PTT / INR:15.2/42.7/1.3, ALT / AST:[**10-14**], Alk Phos / T
   Bili:/0.2, Lactic Acid:1.5 mmol/L, LDH:247 IU/L, Ca++:8.0 mg/dL,
   Mg++:2.0 mg/dL, PO4:3.8 mg/dL
   Micro:
   Micro
   [**6-19**], [**6-20**] blood NGTD
   [**6-19**] sputum NGTD
   [**6-19**] stool C diff toxin negative
   [**6-17**] CSF negative
   [**6-17**] sputum MRSA
   [**6-17**] blood negative
   [**6-17**] urine negative
   [**6-24**] MRI head
   No evidence for acute ischemia.
   Slight progression of periventricular hyperintensity which could
   reflect
   progression of small vessel ischemia. Less likely, this could represent
   transependymal CSF flow from NPH.
   Foci of hypersignal in the right frontal and parietal lobe which were
   not
   present on the prior MRI may represent interval ischemia which is
   chronic
   CXR
   Bilateral small effusions with prominent hilar and vascularity
   Assessment and Plan
 IMPAIRED SKIN INTEGRITY
 LEUKOCYTOSIS
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 HYPOTENSION (NOT SHOCK)
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
 DIABETES MELLITUS (DM), TYPE II
 HYPERTENSION, BENIGN
 ATRIAL FIBRILLATION (AFIB)
   87 yo M with afib, T2 diabetes, dementia, s/p bladder rupture x2,
   recent repair, with h/o MDR UTIs admitted with altered mental status
   and seizures.
   1. Altered mental status
   Improved since yesterday, more responsive.  Following commands this
   am.  Etiology of initial presentation is likely related to seizures
   delirium in the setting of infection and seizures. CSF was traumatic
   but cannot exclude meningitis. Additional possibilities include renal
   failure. Will likely be slow to clear in the setting of background
   dementia.
   - appreciate neurology recs.
   - continue vancomycin, ceftriaxone, and bactrim for 14 day course,
   currently d10 (D1 = [**6-17**])
   - hold vanco trough today is 31, repeat tomorrow dosing <20
   - follow-up pending blood cultures
   - continue phosphenytoin for seizure treatment
   2.  Seizures
   Appears to have stopped.  Likely precipitated by acute infection
   ?meningitis. MRI without any mass or evidence of recent stroke.
   - Now on phosphenytoin w/o evidence of continued seizures
   - f/u neurology  recs, will ask about utility of repeat EEG to eval for
   persistent seizures, will also ask about possibly switching to keppra
   3. Respiratory Failure
   Pt successfully extubated yesterday, had been intubated in ER for
   airway protection
   CXR today with evidence of fluid overload.
   - diurese with goal -1L negative
   4. Non-anion gap acidosis: Resolving.  [**Month (only) 60**] have been compensatory
   response from forced CMV, blowing off C02 resulting in bicarb wasting.
   Also received NS in the setting of hypotension.  [**Month (only) 60**] also have
   underlying RTA given new renal failure.  Urine pH 6.5, with low
   bicarb.  [**Month (only) 60**] be type 1 RTA vs. his ARF continuing since last admission
   - cont to trend
   - serial ABGs
   - no need for supplemental bicarb
   5. Acute renal failure: Now at a new baseline
   Etiology thought likely related to gentamicin during prior admission.
   Urine output from catheters adequate arguing against obstruction.
   BUN/Cr >20:1 at presentation suggesting prerenal picture, however  FeNA
   6.5% which is less consistent this (though urine obtained later in day
   in ICU). ATN less likely in absence of significant hypotension (SBP of
   60
s briefly x1 overnight probably not accurate [**Location (un) 308**]).
   - Continue to follow urine output, Cr
   - Renally dose meds
   6. Anemia
   Hct down 35->29 following IVF but was discharged with Hct ~30. No gross
   bleeding.  Now 25 and stable though slightly lower, no signs of active
   bleeding.  Likely phlebotomy effect + inflammation
   - Maintain active T+S, transfuse Hb>7
   - Cont to trend
   7. s/p Bladder repair: Has had 2 ruptures in the last 2 years.  Now
   with chronic Foley and SP catheter.  At last admission appeared to be
   healing well with clear drainage.  Though there was a fluid collection
   in the peritoneum, was non-specific finding.  Currently draining clear
   urine with benign exam.
   - Cont Foley and SP catheter to gravity
   - No acute interventions required at this time per urology
   8. DM2: Blood sugars stable with current symptoms.
   - Cont HISS, QID fingersticks
   9 Afib: In Afib currently and once again not [**Doctor Last Name **] controlled.  Not on
   coumadin given past hemorrhage.
   - continue metoprolol IV (will increase from 5 to 10 mg IV q 6)
   - EKG
   10 LUE Swelling: Likely related to PICC.  LE US demonstrated PICC
   associated DVT.
   - pulled PICC line
   - New PICC placed (will pull back as appears to be in RA)
   - Cont to monitor -> elevate arm
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2176-6-25**] 05:00 PM 50 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2176-6-19**] 05:30 AM
   PICC Line - [**2176-6-23**] 02:16 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition:ICU

2176-06-26 08:03:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the
   for key portions of the services provided.  I agree with his / her note
   above, including assessment and plan.
   HPI:
   24 Hour Events:
   Allergies:
   Amoxicillin
   Nausea/Vomiting
   Penicillins
   Nausea/Vomiting
   Coumadin (Oral) (Warfarin Sodium)
   Unknown;
   Oxycodone
   Unknown;
   Megestrol Acetate
   Nausea/Vomiting
   Remeron (Oral) (Mirtazapine)
   Unknown;
   Ritalin (Oral) (Methylphenidate Hcl)
   Confusion/Delir
   Last dose of Antibiotics:
   Bactrim (SMX/TMP) - [**2176-6-26**] 02:00 AM
   Ceftriaxone - [**2176-6-26**] 06:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2176-6-25**] 01:49 PM
   Fosphenytoin - [**2176-6-25**] 05:00 PM
   Heparin Sodium (Prophylaxis) - [**2176-6-25**] 10:00 PM
   Metoprolol - [**2176-6-26**] 12:00 AM
   Furosemide (Lasix) - [**2176-6-26**] 04:30 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2176-6-26**] 08:03 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 36.4
C (97.6
   HR: 112 (73 - 117) bpm
   BP: 111/81(97) {81/57(68) - 164/127(134)} mmHg
   RR: 18 (13 - 27) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 68 Inch
             Total In:
                                                                  1,580 mL
                                                                  1,092 mL
   PO:
             TF:
                                                                    180 mL
                                                                    362 mL
   IVF:
                                                                  1,350 mL
                                                                    630 mL
   Blood products:
   Total out:
                                                                  1,525 mL
                                                                  1,400 mL
   Urine:
                                                                  1,525 mL
                                                                  1,400 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     55 mL
                                                                   -308 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 99%
   ABG: ///20/
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, NG tube
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Rhonchorous: anterior)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 1+, Left: 1+
   Musculoskeletal: Unable to stand
   Skin:  Warm
   Neurologic: Attentive, Responds to: Verbal stimuli, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   8.8 g/dL
   405 K/uL
   151 mg/dL
   2.1 mg/dL
   20 mEq/L
   4.8 mEq/L
   33 mg/dL
   105 mEq/L
   137 mEq/L
   26.9 %
   6.6 K/uL
        [image002.jpg]
                             [**2176-6-21**]  04:02 AM
                             [**2176-6-21**]  12:14 PM
                             [**2176-6-22**]  05:10 AM
                             [**2176-6-22**]  05:27 AM
                             [**2176-6-22**]  10:41 PM
                             [**2176-6-23**]  03:46 AM
                             [**2176-6-24**]  04:21 AM
                             [**2176-6-25**]  05:50 AM
                             [**2176-6-25**]  06:00 AM
                             [**2176-6-26**]  05:21 AM
   WBC
   8.9
   9.1
   9.3
   7.4
   6.7
   6.6
   Hct
   25.9
   26.4
   25.7
   25.5
   26.5
   26.9
   Plt
   433
   429
   385
   375
   387
   405
   Cr
   2.2
   2.2
   2.2
   2.2
   2.1
   2.1
   TCO2
   18
   20
   20
   Glucose
   121
   141
   105
   66
   64
   85
   151
   Other labs: PT / PTT / INR:15.2/42.7/1.3, ALT / AST:[**10-14**], Alk Phos / T
   Bili:/0.2, Lactic Acid:1.5 mmol/L, LDH:247 IU/L, Ca++:7.6 mg/dL,
   Mg++:1.9 mg/dL, PO4:3.8 mg/dL
   Assessment and Plan
 ALTERED MENTAL STATUS-presumed due to infection +/- seizure. in terms
   of potential sources, meningitis or pulm source potential but no
   positive cx data to guide.  Does have base line dementia.
   -more interactive today than previous (minimally)
   -on vanco + Bactrim + CTX day 1 = [**6-17**] --> will complete a 14d course
   of empiric ABX for presumed bacterial meningitis w/ neg cultures
   (including listeria). Dosing Vanco by level.
   -on phosphenytoin per Neuro rec's--> cont at same dose, level yest
   good. Can we change to keppra?  Do we need a repeat EEG?
   -MRI brain no acute process, no evidence of  cerebritis/meningitis
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
   - extubated [**6-24**]
   - goal net neg 1L prn lasix as needed
   - Aspiration precautions
 ATRIAL FIBRILLATION (AFIB) with underlying AS and moderate MR
   (preserved EF)
   -rate control w/ metoprolol, increase to 10 mg IV q 6
   - check 12 lead ECG (? Afib vs sinus tach)
   -no coumadin due to past hemorrhage
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF): thought [**3-4**] gent
   toxicity (during prev bladder rupture)
   - Continue to follow urine output, Cr
   - Renaly dose meds
   - Supportive care for now
 LUE swelling- found to have clot on LUE PICC, PICC pulled and
   replaced w/ RUE PICC, needs to be pulled back
   > Nutrition and meds: needs a Dobhoff tube for now and if MS does not
   clear then consider PEG tube
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2176-6-25**] 05:00 PM 50 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2176-6-19**] 05:30 AM
   PICC Line - [**2176-6-23**] 02:16 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 45 minutes

2176-06-27 07:51:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 ARTERIAL LINE - STOP [**2176-6-26**] 08:01 PM
   > converted to PO phenytoin and Bactrim
   >  Atrial fib with poor rate control over the past 24 hr
   > Lasix 20 mg IV x 1 at 11:00 and 16:00 yesterday
   Allergies:
   Amoxicillin
   Nausea/Vomiting
   Penicillins
   Nausea/Vomiting
   Coumadin (Oral) (Warfarin Sodium)
   Unknown;
   Oxycodone
   Unknown;
   Megestrol Acetate
   Nausea/Vomiting
   Remeron (Oral) (Mirtazapine)
   Unknown;
   Ritalin (Oral) (Methylphenidate Hcl)
   Confusion/Delir
   Last dose of Antibiotics:
   Bactrim (SMX/TMP) - [**2176-6-27**] 01:45 AM
   Ceftriaxone - [**2176-6-27**] 05:36 AM
   Infusions:
   Other ICU medications:
   Metoprolol - [**2176-6-26**] 10:59 AM
   Furosemide (Lasix) - [**2176-6-26**] 11:32 AM
   Heparin Sodium (Prophylaxis) - [**2176-6-26**] 09:39 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2176-6-27**] 07:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36
C (96.8
   HR: 87 (60 - 125) bpm (afib)
   BP: 131/84(95) {115/59(74) - 160/102(115)} mmHg
   RR: 20 (12 - 24) insp/min
   SpO2: 98%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 68 Inch
             Total In:
                                                                  2,406 mL
                                                                    682 mL
   PO:
             TF:
                                                                  1,286 mL
                                                                    469 mL
   IVF:
                                                                    840 mL
                                                                    128 mL
   Blood products:
   Total out:
                                                                  3,455 mL
                                                                    605 mL
   Urine:
                                                                  3,455 mL
                                                                    605 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,049 mL
                                                                     77 mL
   Respiratory support
   SpO2: 98%
   ABG: ///18/
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, NG tube
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : bases b/l)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 1+, Left: 1+
   Musculoskeletal: Unable to stand
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.8 g/dL
   371 K/uL
   210 mg/dL
   2.0 mg/dL
   18 mEq/L
   4.8 mEq/L
   33 mg/dL
   103 mEq/L
   140 mEq/L
   27.2 %
   8.6 K/uL
        [image002.jpg]
                             [**2176-6-21**]  12:14 PM
                             [**2176-6-22**]  05:10 AM
                             [**2176-6-22**]  05:27 AM
                             [**2176-6-22**]  10:41 PM
                             [**2176-6-23**]  03:46 AM
                             [**2176-6-24**]  04:21 AM
                             [**2176-6-25**]  05:50 AM
                             [**2176-6-25**]  06:00 AM
                             [**2176-6-26**]  05:21 AM
                             [**2176-6-27**]  02:59 AM
   WBC
   9.1
   9.3
   7.4
   6.7
   6.6
   8.6
   Hct
   26.4
   25.7
   25.5
   26.5
   26.9
   27.2
   Plt
   429
   385
   375
   387
   405
   371
   Cr
   2.2
   2.2
   2.2
   2.1
   2.1
   2.0
   TCO2
   18
   20
   20
   Glucose
   141
   105
   66
   64
   85
   151
   210
   Other labs: PT / PTT / INR:13.9/29.0/1.2, ALT / AST:[**10-14**], Alk Phos / T
   Bili:/0.2, Lactic Acid:1.5 mmol/L, LDH:247 IU/L, Ca++:7.7 mg/dL,
   Mg++:1.9 mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
 ALTERED MENTAL STATUS-presumed due to infection +/- seizure. in terms
   of potential sources, meningitis or pulm source potential but no
   positive cx data to guide.  Does have base line dementia. Concerned
   that his improvement seems to have plateau
   -more interactive today than previous (minimally)
   -on vanco + Bactrim + CTX day 1 = [**6-17**] --> will complete a 14d course
   of empiric ABX for presumed bacterial meningitis w/ neg cultures
   (including listeria). Dosing Vanco by level.
   -on phenytoin per Neuro rec's--> cont at same dose. Still dialoging on
   optimal regimen (changed to PO).
   Will discuss with neuron re: ? repeat EEG given limited improvement in
   MS
 ATRIAL FIBRILLATION (AFIB) with underlying AS and moderate MR
   (preserved EF), seems to be paroxysmal. EF 50%
   - Metoprolol 50 mg qid was increased yesterday
   - With pre-existing nl EF would favor amiodarone to rate control will
   load today.
   -no coumadin due to past hemorrhage
    > Low HCO3:  seems to be worsening.
   - Check urine lytes: ? RTA from med effect  vs stool losses
   - ? med effect  causing RTA such as phenytoin (known offender)

 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF): thought [**3-4**] gent
   toxicity (during prev bladder rupture)
   - Continue to follow urine output, Cr.
   - Renal dose meds
   - Supportive care for now
   - Goal I/O  even to -500 cc.  Dose of lasix now.
 LUE swelling- found to have clot on LUE PICC, PICC pulled and
   replaced w/ RUE PICC, needs to be pulled back
    > Nutrition and meds: needs a Dobhoff tube for now and if MS does not
   clear then consider PEG tube
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2176-6-26**] 04:10 PM 60 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2176-6-23**] 02:16 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes

2176-06-27 07:52:00 Physician Resident Progress Note
Chief Complaint: Altered mental status
   24 Hour Events:
 ARTERIAL LINE - STOP [**2176-6-26**] 08:01 PM
   - intermittently rate-controlled
   - switched to po bactrim
   - changed from phosphenytoin to phenytoin 100 tid w/ extra 200 mg as
   level was low
   Allergies:
   Amoxicillin
   Nausea/Vomiting
   Penicillins
   Nausea/Vomiting
   Coumadin (Oral) (Warfarin Sodium)
   Unknown;
   Oxycodone
   Unknown;
   Megestrol Acetate
   Nausea/Vomiting
   Remeron (Oral) (Mirtazapine)
   Unknown;
   Ritalin (Oral) (Methylphenidate Hcl)
   Confusion/Delir
   Last dose of Antibiotics:
   Bactrim (SMX/TMP) - [**2176-6-27**] 01:45 AM
   Ceftriaxone - [**2176-6-27**] 05:36 AM
   Infusions:
   Other ICU medications:
   Metoprolol - [**2176-6-26**] 10:59 AM
   Furosemide (Lasix) - [**2176-6-26**] 11:32 AM
   Heparin Sodium (Prophylaxis) - [**2176-6-26**] 09:39 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2176-6-27**] 07:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36
C (96.8
   HR: 87 (60 - 125) bpm
   BP: 131/84(95) {115/59(74) - 160/102(115)} mmHg
   RR: 20 (12 - 24) insp/min
   SpO2: 98%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 68 Inch
             Total In:
                                                                  2,406 mL
                                                                    682 mL
   PO:
             TF:
                                                                  1,286 mL
                                                                    469 mL
   IVF:
                                                                    840 mL
                                                                    128 mL
   Blood products:
   Total out:
                                                                  3,455 mL
                                                                    605 mL
   Urine:
                                                                  3,455 mL
                                                                    605 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,049 mL
                                                                     77 mL
   Respiratory support
   SpO2: 98%
   ABG: ///18/
   Physical Examination
   Lying in bed, alert, in no acute distress
   PEARL, dry MM, dobhoff in place
   Lungs with coarse breath sounds bilaterally, few wheezes no rales, poor
   respiratory effort by patient
   Irregularly irregular, no m/r/g
   Abd soft +bowel sounds well healed midline surgical wound, suprapubic
   catheter and foley in place
   Extrem warm anasarca palpable pulses, L hand with ecchymosis  unchanged
   Opens/closes eyes to command, squeezing hands and wiggles toes to
   command (LLE> RLE this AM)
   Labs / Radiology
   371 K/uL
   8.8 g/dL
   210 mg/dL
   2.0 mg/dL
   18 mEq/L
   4.8 mEq/L
   33 mg/dL
   103 mEq/L
   140 mEq/L
   27.2 %
   8.6 K/uL
        [image002.jpg]
                             [**2176-6-21**]  12:14 PM
                             [**2176-6-22**]  05:10 AM
                             [**2176-6-22**]  05:27 AM
                             [**2176-6-22**]  10:41 PM
                             [**2176-6-23**]  03:46 AM
                             [**2176-6-24**]  04:21 AM
                             [**2176-6-25**]  05:50 AM
                             [**2176-6-25**]  06:00 AM
                             [**2176-6-26**]  05:21 AM
                             [**2176-6-27**]  02:59 AM
   WBC
   9.1
   9.3
   7.4
   6.7
   6.6
   8.6
   Hct
   26.4
   25.7
   25.5
   26.5
   26.9
   27.2
   Plt
   429
   385
   375
   387
   405
   371
   Cr
   2.2
   2.2
   2.2
   2.1
   2.1
   2.0
   TCO2
   18
   20
   20
   Glucose
   141
   105
   66
   64
   85
   151
   210
   Other labs: PT / PTT / INR:13.9/29.0/1.2, ALT / AST:[**10-14**], Alk Phos / T
   Bili:/0.2, Lactic Acid:1.5 mmol/L, LDH:247 IU/L, Ca++:7.7 mg/dL,
   Mg++:1.9 mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
   87 yo M with afib, T2 diabetes, dementia, s/p bladder rupture x2,
   recent repair, with h/o MDR UTIs admitted with altered mental status
   and seizures.
   1. Altered mental status
   Improved since yesterday, more responsive.  Following commands this
   am.  Etiology of initial presentation is likely related to delirium in
   the setting of infection and seizures. CSF was traumatic but cannot
   exclude meningitis. Additional possibilities include renal failure.
   Will likely be slow to clear in the setting of background dementia.
   Per neuro given possible nonconvulsive status epilepticus his MS will
   improve slowly.
   - appreciate neurology recs.
   - continue vancomycin, ceftriaxone, and bactrim for 14 day course,
   currently d11 (D1 = [**6-17**])
   - hold vanco trough today is 31, repeat tomorrow dosing <20
   - follow-up pending blood cultures
   - continue phenytoin for seizure treatment
   2.  Seizures
   Appears to have stopped.  Likely precipitated by acute infection
   ?meningitis. MRI without any mass or evidence of recent stroke.
   - Now on phenytoin 100mg tid w/o evidence of continued seizures,
   received extra dose yesterday given corrected level 11.6 (goal 15-20)
   - recheck level today
   - f/u neurology  recs
   3. Respiratory Failure
   Pt successfully extubated and stable on NC, had been intubated in ER
   for airway protection
   CXR today with evidence of fluid overload.
   - diurese with goal -1L negative
   4. Non-anion gap acidosis: Resolving.  [**Month (only) 60**] have been compensatory
   response from forced CMV, blowing off C02 resulting in bicarb wasting.
   Also received NS in the setting of hypotension.  [**Month (only) 60**] also have
   underlying RTA given new renal failure.  Urine pH 6.5, with low
   bicarb.  [**Month (only) 60**] be type 1 RTA vs. his ARF continuing since last admission
   - cont to trend
   - serial ABGs
   - no need for supplemental bicarb
   5. Acute renal failure: Now at a new baseline
   Etiology thought likely related to gentamicin during prior admission.
   Urine output from catheters adequate arguing against obstruction.
   BUN/Cr >20:1 at presentation suggesting prerenal picture, however  FeNA
   6.5% which is less consistent this (though urine obtained later in day
   in ICU). ATN less likely in absence of significant hypotension (SBP of
   60
s briefly x1 overnight probably not accurate [**Location (un) 308**]).
   - Continue to follow urine output, Cr
   - Renally dose meds
   6. Anemia
   Hct down 35->29 following IVF but was discharged with Hct ~30. No gross
   bleeding.  Now 25 and stable though slightly lower, no signs of active
   bleeding.  Likely phlebotomy effect + inflammation
   - Maintain active T+S, transfuse Hb>7
   - Cont to trend
   7. s/p Bladder repair: Has had 2 ruptures in the last 2 years.  Now
   with chronic Foley and SP catheter.  At last admission appeared to be
   healing well with clear drainage.  Though there was a fluid collection
   in the peritoneum, was non-specific finding.  Currently draining clear
   urine with benign exam.
   - Cont Foley and SP catheter to gravity
   - No acute interventions required at this time per urology
   8. DM2: Blood sugars stable with current symptoms.
   - Cont HISS, QID fingersticks
   9 Afib: In Afib currently and once again not [**Doctor Last Name **] controlled.  Not on
   coumadin given past hemorrhage.
   - continue metoprolol IV (will increase from 5 to 10 mg IV q 6)
   - EKG
   10 LUE Swelling: Likely related to PICC.  LE US demonstrated PICC
   associated DVT.
   - pulled PICC line
   - New PICC placed
   - Cont to monitor -> elevate arm
 [**Last Name 121**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 IMPAIRED SKIN INTEGRITY
 LEUKOCYTOSIS
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 HYPOTENSION (NOT SHOCK)
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
 DIABETES MELLITUS (DM), TYPE II
 HYPERTENSION, BENIGN
 ATRIAL FIBRILLATION (AFIB)
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2176-6-26**] 04:10 PM 60 mL/hour
   Glycemic Control:  Blood sugar well controlled
   Lines:
   PICC Line - [**2176-6-23**] 02:16 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition:ICU

2176-06-28 06:55:00 Physician Resident Progress Note
Chief Complaint: Altered mental status
   24 Hour Events:
   - tachycardic to 120s in am and amio loaded with HR 60s-90s
   - MS [**First Name (Titles) 4073**] [**Last Name (Titles) 2840**]
   - dilantin held given free level >2
   - diuresed with lasix 20mg IV x2
   Allergies:
   Amoxicillin
   Nausea/Vomiting
   Penicillins
   Nausea/Vomiting
   Coumadin (Oral) (Warfarin Sodium)
   Unknown;
   Oxycodone
   Unknown;
   Megestrol Acetate
   Nausea/Vomiting
   Remeron (Oral) (Mirtazapine)
   Unknown;
   Ritalin (Oral) (Methylphenidate Hcl)
   Confusion/Delir
   Last dose of Antibiotics:
   Bactrim (SMX/TMP) - [**2176-6-28**] 02:15 AM
   Ceftriaxone - [**2176-6-28**] 06:00 AM
   Infusions:
   Amiodarone - 0.5 mg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2176-6-27**] 12:25 PM
   Furosemide (Lasix) - [**2176-6-27**] 06:01 PM
   Heparin Sodium (Prophylaxis) - [**2176-6-27**] 09:45 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is [**Year (4 digits) 2840**] from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2176-6-28**] 06:55 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 36.3
C (97.3
   HR: 79 (59 - 129) bpm
   BP: 146/72(127) {128/70(84) - 179/112(128)} mmHg
   RR: 18 (0 - 30) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
             Total In:
                                                                  2,437 mL
                                                                    712 mL
   PO:
             TF:
                                                                  1,441 mL
                                                                    327 mL
   IVF:
                                                                    671 mL
                                                                    205 mL
   Blood products:
   Total out:
                                                                  2,525 mL
                                                                    885 mL
   Urine:
                                                                  2,525 mL
                                                                    885 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -88 mL
                                                                   -173 mL
   Respiratory support
   SpO2: 96%
   ABG: ////
   Physical Examination
   Lying in bed, alert, in no acute distress
   PEARL, dry MM, dobhoff in place
   Lungs with coarse breath sounds bilaterally, few wheezes no rales, poor
   respiratory effort by patient
   Irregularly irregular, no m/r/g
   Abd soft +bowel sounds well healed midline surgical wound, suprapubic
   catheter and foley in place
   Extrem warm anasarca palpable pulses, L hand with ecchymosis  [**Year (4 digits) 2840**]
   Opens/closes eyes to command, squeezing hands and wiggles toes to
   command (LLE> RLE this AM)
   Labs / Radiology
   371 K/uL
   8.8 g/dL
   210 mg/dL
   2.0 mg/dL
   18 mEq/L
   4.8 mEq/L
   33 mg/dL
   103 mEq/L
   140 mEq/L
   27.2 %
   8.6 K/uL
        [image002.jpg]
                             [**2176-6-21**]  12:14 PM
                             [**2176-6-22**]  05:10 AM
                             [**2176-6-22**]  05:27 AM
                             [**2176-6-22**]  10:41 PM
                             [**2176-6-23**]  03:46 AM
                             [**2176-6-24**]  04:21 AM
                             [**2176-6-25**]  05:50 AM
                             [**2176-6-25**]  06:00 AM
                             [**2176-6-26**]  05:21 AM
                             [**2176-6-27**]  02:59 AM
   WBC
   9.1
   9.3
   7.4
   6.7
   6.6
   8.6
   Hct
   26.4
   25.7
   25.5
   26.5
   26.9
   27.2
   Plt
   429
   385
   375
   387
   405
   371
   Cr
   2.2
   2.2
   2.2
   2.1
   2.1
   2.0
   TCO2
   18
   20
   20
   Glucose
   141
   105
   66
   64
   85
   151
   210
   Other labs: PT / PTT / INR:13.9/29.0/1.2, ALT / AST:[**10-14**], Alk Phos / T
   Bili:/0.2, Lactic Acid:1.2 mmol/L, LDH:247 IU/L, Ca++:7.7 mg/dL,
   Mg++:1.9 mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
   87 yo M with afib, T2 diabetes, dementia, s/p bladder rupture x2,
   recent repair, with h/o MDR UTIs admitted with altered mental status
   and seizures.
   1. Altered mental status
   No major improvement since yesterday
   Etiology of initial presentation is likely related to delirium in the
   setting of infection and seizures. CSF was traumatic but cannot exclude
   meningitis. Additional possibilities include renal failure. Will likely
   be slow to clear in the setting of background dementia.  Per neuro
   given possible nonconvulsive status epilepticus his MS will improve
   slowly.
   - appreciate neurology recs.
   - continue vancomycin, ceftriaxone, and bactrim for 14 day course,
   currently d11 (D1 = [**6-17**])
   - hold vanco trough today is 31, repeat tomorrow dosing <20
   - follow-up pending blood cultures
   - continue phenytoin for seizure treatment
   2.  Seizures
   Appears to have stopped.  Likely precipitated by acute infection
   ?meningitis. MRI without any mass or evidence of recent stroke.
   - Now on phenytoin 100mg tid w/o evidence of continued seizures,
   received extra dose yesterday given corrected level 11.6 (goal 15-20)
   - recheck level today
   - f/u neurology  recs
   - considering repeating EEG
   3. Respiratory Failure
   Pt successfully extubated and stable on NC, had been intubated in ER
   for airway protection
   CXR today with evidence of fluid overload.
   - diurese with goal -1L negative
   4. acidosis:
   elevated gap today, previously ?RTA might be dilantin related
   - repeat UA, urine lytes,  and lactate today
   5. Acute renal failure: Now at a new baseline
   Etiology thought likely related to gentamicin during prior admission.
   Urine output from catheters adequate arguing against obstruction.
   BUN/Cr >20:1 at presentation suggesting prerenal picture, however  FeNA
   6.5% which is less consistent this (though urine obtained later in day
   in ICU). ATN less likely in absence of significant hypotension (SBP of
   60
s briefly x1 overnight probably not accurate [**Location (un) 308**]).
   - Continue to follow urine output, Cr
   - Renally dose meds
   6. Anemia
   Hct down 35->29 following IVF but was discharged with Hct ~30. No gross
   bleeding.  Now 25 and stable though slightly lower, no signs of active
   bleeding.  Likely phlebotomy effect + inflammation
   - Maintain active T+S, transfuse Hb>7
   - Cont to trend
   7. s/p Bladder repair: Has had 2 ruptures in the last 2 years.  Now
   with chronic Foley and SP catheter.  At last admission appeared to be
   healing well with clear drainage.  Though there was a fluid collection
   in the peritoneum, was non-specific finding.  Currently draining clear
   urine with benign exam.
   - Cont Foley and SP catheter to gravity
   - No acute interventions required at this time per urology
   8. DM2: Blood sugars stable with current symptoms.
   - Cont HISS, QID fingersticks
   9 Afib: In Afib currently rate control is not consistent.  Not on
   coumadin given past hemorrhage.
   - continue metoprolol 50q6
   - amiodarone load today, pt has nl EF
   - EKG
   10 LUE Swelling: Likely related to PICC.  LE US demonstrated PICC
   associated DVT.
   - pulled PICC line
   - New PICC placed
   - Cont to monitor -> elevate arm
 [**Last Name 121**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 IMPAIRED SKIN INTEGRITY
 LEUKOCYTOSIS
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 HYPOTENSION (NOT SHOCK)
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
 DIABETES MELLITUS (DM), TYPE II
 HYPERTENSION, BENIGN
 ATRIAL FIBRILLATION (AFIB)
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2176-6-28**] 01:32 AM 60 mL/hour
   Glycemic Control:  Blood sugar well controlled
   Lines:
   PICC Line - [**2176-6-23**] 02:16 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition:ICU

2176-06-28 07:53:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Allergies:
   Amoxicillin
   Nausea/Vomiting
   Penicillins
   Nausea/Vomiting
   Coumadin (Oral) (Warfarin Sodium)
   Unknown;
   Oxycodone
   Unknown;
   Megestrol Acetate
   Nausea/Vomiting
   Remeron (Oral) (Mirtazapine)
   Unknown;
   Ritalin (Oral) (Methylphenidate Hcl)
   Confusion/Delir
   Last dose of Antibiotics:
   Bactrim (SMX/TMP) - [**2176-6-28**] 02:15 AM
   Ceftriaxone - [**2176-6-28**] 06:00 AM
   Infusions:
   Amiodarone - 0.5 mg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2176-6-27**] 12:25 PM
   Furosemide (Lasix) - [**2176-6-27**] 06:01 PM
   Heparin Sodium (Prophylaxis) - [**2176-6-27**] 09:45 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2176-6-28**] 07:53 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 36.3
C (97.3
   HR: 79 (59 - 129) bpm
   BP: 146/72(127) {128/70(84) - 179/112(128)} mmHg
   RR: 18 (0 - 30) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
             Total In:
                                                                  2,437 mL
                                                                    791 mL
   PO:
             TF:
                                                                  1,441 mL
                                                                    384 mL
   IVF:
                                                                    671 mL
                                                                    227 mL
   Blood products:
   Total out:
                                                                  2,525 mL
                                                                  1,085 mL
   Urine:
                                                                  2,525 mL
                                                                  1,085 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -88 mL
                                                                   -294 mL
   Respiratory support
   SpO2: 96%
   ABG: ////
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, NG tube
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 1+, Left: 1+
   Skin:  Warm
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   8.6 g/dL
   386 K/uL
   210 mg/dL
   2.0 mg/dL
   18 mEq/L
   4.8 mEq/L
   33 mg/dL
   103 mEq/L
   140 mEq/L
   26.5 %
   10.0 K/uL
        [image002.jpg]
                             [**2176-6-22**]  05:10 AM
                             [**2176-6-22**]  05:27 AM
                             [**2176-6-22**]  10:41 PM
                             [**2176-6-23**]  03:46 AM
                             [**2176-6-24**]  04:21 AM
                             [**2176-6-25**]  05:50 AM
                             [**2176-6-25**]  06:00 AM
                             [**2176-6-26**]  05:21 AM
                             [**2176-6-27**]  02:59 AM
                             [**2176-6-28**]  06:16 AM
   WBC
   9.1
   9.3
   7.4
   6.7
   6.6
   8.6
   10.0
   Hct
   26.4
   25.7
   25.5
   26.5
   26.9
   27.2
   26.5
   Plt
   429
   385
   375
   387
   405
   371
   386
   Cr
   2.2
   2.2
   2.2
   2.1
   2.1
   2.0
   TCO2
   20
   20
   Glucose
   141
   105
   66
   64
   85
   151
   210
   Other labs: PT / PTT / INR:13.9/29.0/1.2, ALT / AST:[**10-14**], Alk Phos / T
   Bili:/0.2, Lactic Acid:1.2 mmol/L, LDH:247 IU/L, Ca++:7.7 mg/dL,
   Mg++:1.9 mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
 ALTERED MENTAL STATUS-presumed due to infection +/- seizure. in terms
   of potential sources, meningitis or pulm source potential but no
   positive cx data to guide.  Does have base line dementia. Concerned
   that his improvement seems to have plateau
   -more interactive today than previous (minimally)
   -on vanco + Bactrim + CTX day 1 = [**6-17**] --> will complete a 14d course
   of empiric ABX for presumed bacterial meningitis w/ neg cultures
   (including listeria). Dosing Vanco by level.
   -on phenytoin per Neuro rec's--> cont at same dose. Still dialoging on
   optimal regimen (changed to PO).
   Will discuss with neuron re: ? repeat EEG given limited improvement in
   MS
 ATRIAL FIBRILLATION (AFIB) with underlying AS and moderate MR
   (preserved EF), seems to be paroxysmal. EF 50%
   - Metoprolol 50 mg qid was increased yesterday
   - With pre-existing nl EF would favor amiodarone to rate control will
   load today.
   -no coumadin due to past hemorrhage
    > Low HCO3:  seems to be worsening.
   - Check urine lytes: ? RTA from med effect  vs stool losses
   - ? med effect  causing RTA such as phenytoin (known offender)

 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF): thought [**3-4**] gent
   toxicity (during prev bladder rupture)
   - Continue to follow urine output, Cr.
   - Renal dose meds
   - Supportive care for now
   - Goal I/O  even to -500 cc.  Dose of lasix now.
 LUE swelling- found to have clot on LUE PICC, PICC pulled and
   replaced w/ RUE PICC, needs to be pulled back
    > Nutrition and meds: needs a Dobhoff tube for now and if MS does not
   clear then consider PEG tube
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2176-6-28**] 01:32 AM 60 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2176-6-23**] 02:16 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes